2129-07-09 06:12:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 ARTERIAL LINE - START [**2129-7-8**] 03:22 PM
 MULTI LUMEN - START [**2129-7-8**] 07:55 PM
   Patient coughing, fighting vent -> SaO2 82-84% with PEEP 20 ->
   paralysis with Cisatracurium. Esophageal ballon placed
 trans pulm
   expiratory pressure 12, felt PEEP too high however patient did not
   tolerate lower PEEP therefore continued PEEP 20.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-7-8**] 06:22 PM
   Vancomycin - [**2129-7-8**] 09:40 PM
   Bactrim (SMX/TMP) - [**2129-7-9**] 03:45 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Cisatracurium - 0.06 mg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-8**] 04:11 PM
   Fentanyl - [**2129-7-8**] 06:19 PM
   Midazolam (Versed) - [**2129-7-9**] 12:03 AM
   Cisatracurium - [**2129-7-9**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-9**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.3
   HR: 74 (72 - 98) bpm
   BP: 97/62(74) {80/51(61) - 148/80(104)} mmHg
   RR: 22 (14 - 52) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  6,568 mL
                                                                  3,689 mL
   PO:
   TF:
   IVF:
                                                                  4,408 mL
                                                                  3,689 mL
   Blood products:
   Total out:
                                                                  1,429 mL
                                                                    188 mL
   Urine:
                                                                    429 mL
                                                                    188 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,139 mL
                                                                  3,501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 271) mL
   PS : 0 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 100%
   PIP: 39 cmH2O
   Plateau: 29 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 91%
   ABG: 7.30/43/77/20/-4
   Ve: 9.9 L/min
   PaO2 / FiO2: 77
   Physical Examination
   General Appearance: No(t) No acute distress, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   116 K/uL
   8.3 g/dL
   210 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.8 mEq/L
   15 mg/dL
   108 mEq/L
   133 mEq/L
   24.8 %
   3.1 K/uL
        [image002.jpg]
                             [**2129-7-8**]  03:32 PM
                             [**2129-7-8**]  03:47 PM
                             [**2129-7-8**]  05:16 PM
                             [**2129-7-8**]  09:18 PM
                             [**2129-7-8**]  11:27 PM
                             [**2129-7-9**]  02:17 AM
                             [**2129-7-9**]  03:47 AM
                             [**2129-7-9**]  04:13 AM
   WBC
   3.5
   3.1
   Hct
   32.8
   24.8
   Plt
   119
   116
   Cr
   0.8
   1.0
   TropT
   <0.01
   TCO2
   28
   26
   26
   22
   23
   22
   Glucose
   204
   210
   Other labs: PT / PTT / INR:14.1/36.9/1.2, CK / CKMB /
   Troponin-T:5948/4/<0.01, ALT / AST:63/170, Alk Phos / T Bili:40/0.2,
   Amylase / Lipase:74/64, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.8
   g/dL, LDH:1794 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Micro Data:
   Viral culture: P
   HIV viral load: P
   CD4 count: P
   Blood culture: P
   Urine culture: P
   Legionella: P
   MiniBal: Gram stain negative, otherwise not enough sample
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Hypoxic respiratory failure: Likely CAP, but DDx includes other PNA
   (PCP vs bacterial
 Staph on viral, Legionella) vs interstitial
   inflammatory process (acute interstial pna, acute eosionphilic pna) vs
   vasculitis (less likely as no other organ involvement).
   Rapidly progressive at OSH requiring intubation. PaO2/FiO2 ratio on
   admission suggested ARDS (<300). CXR on admission is impressive for
   near white out of left lung with air bronchograms as well as
   consolidations in RML and RLL. This morning CXR demonstrates worsening
   right lung opacities. Elevated LDH and initial hyponatremia suspicious
   for PCP, [**Name10 (NameIs) 6464**] patient started on IV Bactrim and Steroids last
   evening. Overnight patient desaturated on FiO2 100%, required PEEP 20
   and paralysis with some improvement. Mini-BAL not sufficient quanitity.
   - Continue broad abx coverage with IV vancomycin, azithromycin
   - Continue ceftriaxone for better coverage for multifocal PNA
   - Continue bactrim IV and methylprednisolone IV, stop if HIV negative
   - Continue PEEP 20, esophageal ballon
   - Closely monitor peak and plateau airway pressures.
   - Place right side down.
   - If patient stable consider bronch for gram stain, culture, PCP, [**Name10 (NameIs) 6455**]
   respiratory viral screen, and AFB smear and cx.
   - F/u Legionella antigen, viral culture, blood culture, urine culture,
   HIV viral load, CD 4 count
   - F/u B-glucan
   - F/u OSH HIV Ab test.
   - Consider pRBC transfusion if worsening
   - ID consult.
   # Hypotension: Currently MAP > 60, SBP low 90s. Patient received 6 L
   bolus overnight. Likely related to distributive etiology vs. decreased
   venous return from PEEP rather than developing cardiogenic shock. So
   far patient has required no pressor support. RIJ TLC placed and CXR
   confirmed placement.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   - Given increased heart size on CXR, ordered TTE.
   # Elevated LDH, CK:  Elevated LDH may be indicative of possible PCP
   PNA, unlikely to be [**3-7**] hemolysis as tbili wnl. [**Month (only) 11**] also be secondary
   to rhabdomyolysis ([**3-7**] rigoring vs viral infxn) as CK is also elevated,
   although downtrending from OSH. No clear signs of cardiac ischemia on
   tele or OSH EKG. Although labs may be concerning for rhabdo, his Cr is
   not elevated, UA with only mod blood and 8 RBC.
   - Follow-up CKMB, MBI, troponin.
   - Closely monitor urine output and give
   - Check EKG
   - Closely monitor LDH, CK, AST, ALT.
   # Tranaminitis:  AST > ALT, no h/o heavy EtOH per family. [**Month (only) 11**] also be
   secondary to muscle breakdown process vs. other primary hepatic
   process. Abd U/S at OSH did not show cirrhotic liver, splenomegaly, but
   did show small cystic like structure. No coagulopathy.
   - Trend LFTs.
   - If uptrending without clear etiology, would consider checking
   hepatitis serologies.
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. No signs of hemolysis. Does have bands
   on differential which suggests marrow is attempting to respond to
   infectious/acute process. [**Month (only) 11**] be secondary to viral process vs. bone
   marrow suppression [**3-7**] sepsis.
   - Check reticulocyte count, haptoglobin.
   - Check peripheral smear to r/o schistocytes (no ARF thus far, MS
   change likely secondary to sedation received in setting of intubation).
   - Closely monitor all three cell line counts.
   - Type and screen.
   - f/u HIV test.
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. [**Month (only) 11**] also be
   related to possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   - IVF boluses prn as above.
   ICU Care
   Nutrition: NPO for now except meds via NGT. Nutrition consult for tube
   feed recs. replete lytes prn
   Glycemic Control:  Humalog sliding scale
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   20 Gauge - [**2129-7-8**] 03:23 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: Famotidine 20 mg PO
   Communication:  Comments: Wife [**Name (NI) 1442**] [**Name (NI) **] [**Telephone/Fax (1) 6456**] (cell)
   Code status: Full Code
   Disposition: ICU level of care, critically ill

2129-07-10 08:11:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - ID: check for ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV,
   CMV, Hep B/C + consider CT chest and RUQ U/S
   - switch vanco to linezolid for better MSSA coverage, however, risk of
   increased sympathetic effects per pharmacy
   - switch ctx to zosyn for pseudomonas coverage
   - continue azithro/bactrim
   - [**Hospital 632**] Hosp --> HIV/hep serologies pending, flu negative, bl cx NGTD,
   need f/u Sunday
   - continued on AC mech ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-7-9**] 04:00 PM
   Vancomycin - [**2129-7-9**] 07:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-9**] 11:20 PM
   Bactrim (SMX/TMP) - [**2129-7-10**] 03:55 AM
   Infusions:
   Cisatracurium - 0.1 mg/Kg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Cisatracurium - [**2129-7-9**] 10:22 PM
   Midazolam (Versed) - [**2129-7-9**] 10:22 PM
   Fentanyl - [**2129-7-9**] 10:22 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-10**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-10**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.3
C (95.6
   HR: 76 (72 - 81) bpm
   BP: 102/57(72) {96/54(69) - 116/73(88)} mmHg
   RR: 22 (17 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (10 - 16)mmHg
   Total In:
                                                                  6,943 mL
                                                                    884 mL
   PO:
   TF:
   IVF:
                                                                  6,653 mL
                                                                    884 mL
   Blood products:
   Total out:
                                                                  2,439 mL
                                                                  1,505 mL
   Urine:
                                                                  2,439 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,504 mL
                                                                   -621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Neuromusc Block
   PIP: 38 cmH2O
   Plateau: 40 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/39/81.[**Numeric Identifier 8**]/19/-4
   Ve: 6.6 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: No(t) No acute distress, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   176 K/uL
   9.0 g/dL
   139 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.8 mEq/L
   20 mg/dL
   107 mEq/L
   135 mEq/L
   26.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2129-7-9**]  04:13 AM
                             [**2129-7-9**]  11:40 AM
                             [**2129-7-9**]  02:56 PM
                             [**2129-7-9**]  05:12 PM
                             [**2129-7-9**]  09:18 PM
                             [**2129-7-9**]  11:01 PM
                             [**2129-7-10**]  12:32 AM
                             [**2129-7-10**]  02:09 AM
                             [**2129-7-10**]  03:39 AM
                             [**2129-7-10**]  03:54 AM
   WBC
   5.4
   Hct
   26.1
   Plt
   176
   Cr
   1.4
   TCO2
   22
   21
   22
   22
   21
   21
   21
   21
   21
   Glucose
   139
   Other labs: PT / PTT / INR:12.9/84.1/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6494**]/4/<0.01, ALT / AST:156/420, Alk Phos / T Bili:62/0.3,
   Amylase / Lipase:74/64, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.2 mmol/L, Albumin:2.8
   g/dL, LDH:[**2043**] IU/L, Ca++:7.1 mg/dL, Mg++:2.5 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Hypoxic respiratory failure: Likely CAP, but DDx includes other PNA
   (PCP vs bacterial
 Staph on viral, Legionella) vs interstitial
   inflammatory process (acute interstial pna, acute eosionphilic pna) vs
   vasculitis (less likely as no other organ involvement). Intubated w
   paralytics [**3-7**] agitation.
   - Broad abx coverage:
   ---- vanc (consider switch to linezolid for better MSSA coverage)
   ---- switch CTX to zosyn for better pseudomonal coverage
   ---- azithromycin
   ---- bactrim and methylprednisolone IV for PCP, d/c if HIV screen is
   negative (still pending)
   - Continue PEEP 24, esophageal ballon
   - Closely monitor peak and plateau airway pressures.
   - Place prone to avoid shunt
   - If patient stable consider bronch for gram stain, culture, PCP, [**Name10 (NameIs) 6455**]
   respiratory viral screen, and AFB smear and cx.
   - f/u Legionella antigen, viral culture, blood culture, urine culture,
   HIV viral load, CD 4 count
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV, Hep
   B/C
   - F/u B-glucan
   - F/u OSH HIV Ab, OSH Hepatitis serologies, OSH bl cxs
   - ID recs
   - Consider pRBC transfusion if worsening
   # Hypotension: Improved pressures now in the 100s-110s.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   - Given increased heart size on CXR, ordered TTE.
   # Elevated LDH, CK: LDH and CK continues to be elevated may be
   indicative of possible PCP PNA, unlikely to be [**3-7**] hemolysis as tbili
   wnl. [**Month (only) 11**] also be secondary to rhabdomyolysis ([**3-7**] rigoring vs viral
   infxn) as CK is also elevated. No clear signs of cardiac ischemia on
   tele or OSH EKG. Concern for renal damage if rhabo present.
   - Follow-up CKMB, MBI, troponin.
   - Closely monitor urine output and give
   - Check EKG
   - Closely monitor LDH, CK, AST, ALT.
   - increase IVF
   # Tranaminitis:  AST > ALT, no h/o heavy EtOH per family. [**Month (only) 11**] also be
   secondary to muscle breakdown process vs. other primary hepatic
   process. Abd U/S at OSH did not show cirrhotic liver, splenomegaly, but
   did show small cystic like structure. No coagulopathy.
   - Trend LFTs.
   - If uptrending without clear etiology, would consider checking
   hepatitis serologies.
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. No signs of hemolysis on labs. Does
   have bands on differential which suggests marrow is attempting to
   respond to infectious/acute process, but Retic count low. [**Month (only) 11**] be
   secondary to viral process vs. bone marrow suppression [**3-7**] sepsis.
   - Check peripheral smear to r/o schistocytes (no ARF thus far, MS
   change likely secondary to sedation received in setting of intubation).
   - Closely monitor all three cell line counts.
   - Type and screen.
   - f/u HIV test.
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. [**Month (only) 11**] also be
   related to possible PCP [**Name Initial (PRE) 5656**]. Resolved with fluids
   - Monitor Na.
   .
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   20 Gauge - [**2129-7-8**] 03:23 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT:  hep sq
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-07-11 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -paralytics stopped in AM
   -ID recs- repeated nasopharygeal swab for viral causes; unable to
   repeat BAL due to vent settings
   -intially was changed to supine, and required increased FIO2, then
   placed in rota-prone bed, able to reduce FIO2 to 60%
   -CK trended up to 1200, given IVF to keep UO at 80/hr
   -OSH labs - negative blood cx to date, negative flu test, and HIV
   pending
   - at 9pm, was rotated from supine to prone, and became hypoxic with
   sats to 80s, ABG of 7.28/41/69; FIO2 increased to 100%, changed back to
   supine, CXR with some minimal improvment in RLL, but more bronchograms
   in upper lobes, Sats improved to 99%, ABG 7.29/41/215,  FIO2 weaned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-7-9**] 04:00 PM
   Vancomycin - [**2129-7-9**] 07:41 PM
   Linezolid - [**2129-7-10**] 08:49 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-11**] 04:00 AM
   Bactrim (SMX/TMP) - [**2129-7-11**] 04:30 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-10**] 08:00 AM
   Midazolam (Versed) - [**2129-7-10**] 09:30 PM
   Fentanyl - [**2129-7-10**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-10**] 09:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-11**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (74 - 80) bpm
   BP: 106/50(69) {87/41(59) - 150/89(269)} mmHg
   RR: 47 (22 - 54) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 20 (19 - 20)mmHg
   Total In:
                                                                  4,479 mL
                                                                    954 mL
   PO:
   TF:
   IVF:
                                                                  4,419 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                  1,300 mL
   Urine:
                                                                  3,305 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,174 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant, No Spon Resp
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 89%
   ABG: 7.29/41/91.[**Numeric Identifier **]/19/-6
   Ve: 9.5 L/min
   PaO2 / FiO2: 153
   Physical Examination
   General Appearance: No(t) No acute distress, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   234 K/uL
   8.4 g/dL
   136 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.9 mEq/L
   26 mg/dL
   105 mEq/L
   131 mEq/L
   24.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2129-7-10**]  01:12 PM
                             [**2129-7-10**]  03:50 PM
                             [**2129-7-10**]  06:07 PM
                             [**2129-7-10**]  06:30 PM
                             [**2129-7-10**]  08:10 PM
                             [**2129-7-10**]  10:01 PM
                             [**2129-7-10**]  11:56 PM
                             [**2129-7-11**]  01:22 AM
                             [**2129-7-11**]  03:50 AM
                             [**2129-7-11**]  05:14 AM
   WBC
   6.4
   Hct
   24.5
   Plt
   234
   Cr
   1.4
   1.6
   TCO2
   21
   22
   20
   20
   21
   20
   21
   21
   Glucose
   136
   Other labs: PT / PTT / INR:12.8/61.0/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 6507**]/4/<0.01, ALT / AST:250/527, Alk Phos / T Bili:73/0.4,
   Amylase / Lipase:74/64, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.8
   g/dL, LDH:1559 IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Hypoxic respiratory failure: Likely CAP, but DDx includes other PNA
   (PCP vs bacterial
 Staph on viral, Legionella) vs interstitial
   inflammatory process (acute interstial pna, acute eosionphilic pna) vs
   vasculitis (less likely as no other organ involvement). Intubated w
   paralytics [**3-7**] agitation.
   - Broad abx coverage:
   ---- vanc (consider switch to linezolid for better MSSA coverage)
   ---- switch CTX to zosyn for better pseudomonal coverage
   ---- azithromycin
   ---- bactrim and methylprednisolone IV for PCP, d/c if HIV screen is
   negative (still pending)
   - Continue PEEP 24, esophageal ballon
   - Closely monitor peak and plateau airway pressures.
   - Place prone to avoid shunt
   - If patient stable consider bronch for gram stain, culture, PCP, [**Name10 (NameIs) 6455**]
   respiratory viral screen, and AFB smear and cx.
   - f/u Legionella antigen, viral culture, blood culture, urine culture,
   HIV viral load, CD 4 count
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV, Hep
   B/C
   - F/u B-glucan
   - F/u OSH HIV Ab, OSH Hepatitis serologies, OSH bl cxs
   - ID recs
   - Consider pRBC transfusion if worsening
   # Hypotension: Improved pressures now in the 100s-110s.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   - Given increased heart size on CXR, ordered TTE.
   # Elevated LDH, CK: LDH and CK continues to be elevated may be
   indicative of possible PCP PNA, unlikely to be [**3-7**] hemolysis as tbili
   wnl. [**Month (only) 11**] also be secondary to rhabdomyolysis ([**3-7**] rigoring vs viral
   infxn) as CK is also elevated. No clear signs of cardiac ischemia on
   tele or OSH EKG. Concern for renal damage if rhabo present.
   - Follow-up CKMB, MBI, troponin.
   - Closely monitor urine output and give
   - Check EKG
   - Closely monitor LDH, CK, AST, ALT.
   - increase IVF
   # Tranaminitis:  AST > ALT, no h/o heavy EtOH per family. [**Month (only) 11**] also be
   secondary to muscle breakdown process vs. other primary hepatic
   process. Abd U/S at OSH did not show cirrhotic liver, splenomegaly, but
   did show small cystic like structure. No coagulopathy.
   - Trend LFTs.
   - If uptrending without clear etiology, would consider checking
   hepatitis serologies.
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. No signs of hemolysis on labs. Does
   have bands on differential which suggests marrow is attempting to
   respond to infectious/acute process, but Retic count low. [**Month (only) 11**] be
   secondary to viral process vs. bone marrow suppression [**3-7**] sepsis.
   - Check peripheral smear to r/o schistocytes (no ARF thus far, MS
   change likely secondary to sedation received in setting of intubation).
   - Closely monitor all three cell line counts.
   - Type and screen.
   - f/u HIV test.
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. [**Month (only) 11**] also be
   related to possible PCP [**Name Initial (PRE) 5656**]. Resolved with fluids
   - Monitor Na.
   .
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   20 Gauge - [**2129-7-8**] 03:23 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT:  hep sq
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-07-12 07:59:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - CD4 Count found to be 120, however HIV-1 Viral Load Not detectable
   - [**Hospital3 **] [**Name (NI) **], HIV test still pending
   - Slowly weaned down PEEP
   - D/C'd rota bed-prone bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-7-9**] 04:00 PM
   Vancomycin - [**2129-7-9**] 07:41 PM
   Linezolid - [**2129-7-11**] 07:41 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-12**] 03:46 AM
   Bactrim (SMX/TMP) - [**2129-7-12**] 03:46 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2129-7-11**] 10:06 PM
   Fentanyl - [**2129-7-11**] 10:06 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-12**] 06:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-12**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 90 (77 - 94) bpm
   BP: 123/68(88) {97/44(62) - 143/89(107)} mmHg
   RR: 18 (0 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (12 - 22)mmHg
   Total In:
                                                                  3,468 mL
                                                                    995 mL
   PO:
   TF:
                                                                     55 mL
                                                                    156 mL
   IVF:
                                                                  3,292 mL
                                                                    839 mL
   Blood products:
   Total out:
                                                                  3,880 mL
                                                                  1,880 mL
   Urine:
                                                                  3,880 mL
                                                                  1,880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -412 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Vent Dependant
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   SpO2: 92%
   ABG: 7.29/39/95.[**Numeric Identifier **]/19/-6
   Ve: 11.5 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   303 K/uL
   8.2 g/dL
   125 mg/dL
   1.5 mg/dL
   19 mEq/L
   5.5 mEq/L
   28 mg/dL
   107 mEq/L
   134 mEq/L
   23.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2129-7-11**]  03:40 PM
                             [**2129-7-11**]  04:03 PM
                             [**2129-7-11**]  05:19 PM
                             [**2129-7-11**]  07:03 PM
                             [**2129-7-11**]  10:09 PM
                             [**2129-7-11**]  11:37 PM
                             [**2129-7-12**]  12:49 AM
                             [**2129-7-12**]  02:21 AM
                             [**2129-7-12**]  03:14 AM
                             [**2129-7-12**]  05:21 AM
   WBC
   6.6
   7.8
   Hct
   24.5
   23.9
   Plt
   289
   303
   Cr
   1.5
   1.5
   TCO2
   21
   21
   20
   21
   20
   20
   21
   20
   Glucose
   115
   125
   Other labs: PT / PTT / INR:13.1/53.3/1.1, CK / CKMB /
   Troponin-T:9173/4/<0.01, ALT / AST:234/350, Alk Phos / T Bili:73/0.4,
   Amylase / Lipase:74/64, Differential-Neuts:79.0 %, Band:10.0 %,
   Lymph:9.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.8
   g/dL, LDH:1207 IU/L, Ca++:7.6 mg/dL, Mg++:2.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   PCP (CD4 120!) also includes other PNA (bacterial
 Staph on viral,
   Legionella) vs interstitial inflammatory process (acute interstial pna,
   acute eosionphilic pna) vs vasculitis (less likely as no other organ
   involvement). Intubated. Improved CXR. HIV viral load undetectable.
   - Cont Linezolid/Zosyn/Azithro
   - Cont Bactrim and Methylprednisolone IV for PCP
   [**Name Initial (PRE) **] Not on fungal converage currently, would expand coverage if pt
   decompensates
   - Closely monitor peak and plateau airway pressures. Wean vent PRN.
   Will decrease PEEP as tolerated.
   - Avoiding Prone Position due to intolerance, keep pt in rotating bed.
   - f/u Legionella antigen, viral culture, blood culture, urine culture
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV, Hep
   B/C
   - F/u B-glucan
   - F/u OSH HIV Ab, OSH Hepatitis serologies, OSH bl cxs
   - ID recs
   - Consider pRBC transfusion if worsening
   - Holding off bronch
   # Hypotension: Improved pressures now in the 100s-110s. TTE on [**7-9**]
   shows LVEF 55%.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now downtrending). CK
   ddx includes viral causes of rhabdomyolysis.
   - Closely monitor urine output and give
   - following EKG
   - Closely monitor LDH, CK, AST, ALT.
   - IVF to maintain good UOP
   # Transaminitis:  AST > ALT, no h/o heavy EtOH per family. [**Month (only) 11**] also be
   secondary to muscle breakdown process vs. other primary hepatic
   process. Abd U/S at OSH did not show cirrhotic liver, splenomegaly, but
   did show small cystic like structure. No coagulopathy.
   - Trend LFTs.
   - If uptrending without clear etiology, would consider checking
   hepatitis serologies.
   .
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim. UOP 60-100hr.
   - Monitor Cr (1.6).
   - Avoid nephrotoxins
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia.
   - Trending CBC this PM
   - Check peripheral smear to r/o schistocytes (no ARF thus far, MS
   change likely secondary to sedation received in setting of intubation).
   - Type and screen.
   - f/u HIV test from OSH
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. ? Related to
   possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-11**] 06:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:

2129-07-13 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - OSH: HIV-1 screen negative, need to call in AM to ask about HIV-2
   (add-on)
   - sputum sent for PCP
   [**Name Initial (PRE) **] continued on midazolam/fentanyl
   - attempting to wean PEEP (20 --> 18) and FiO2 (continued 50%), bites
   on tube when awakened
   - received kayexelate for K 5.5 --> 5.2
   - hiccups --> thorazine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2129-7-12**] 08:59 PM
   Bactrim (SMX/TMP) - [**2129-7-13**] 04:08 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-13**] 04:54 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-12**] 01:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-13**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 109 (89 - 128) bpm
   BP: 121/61(80) {113/59(78) - 203/95(136)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  4,978 mL
                                                                  1,283 mL
   PO:
   TF:
                                                                  1,062 mL
                                                                    429 mL
   IVF:
                                                                  3,636 mL
                                                                    853 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                  1,855 mL
   Urine:
                                                                  4,000 mL
                                                                  1,855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    978 mL
                                                                   -571 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 530) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.29/45/152/19/-4
   Ve: 11.5 L/min
   PaO2 / FiO2: 304
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   353 K/uL
   8.1 g/dL
   256 mg/dL
   1.4 mg/dL
   19 mEq/L
   5.5 mEq/L
   29 mg/dL
   101 mEq/L
   129 mEq/L
   23.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2129-7-11**]  11:37 PM
                             [**2129-7-12**]  12:49 AM
                             [**2129-7-12**]  02:21 AM
                             [**2129-7-12**]  03:14 AM
                             [**2129-7-12**]  05:21 AM
                             [**2129-7-12**]  03:52 PM
                             [**2129-7-12**]  05:30 PM
                             [**2129-7-13**]  01:22 AM
                             [**2129-7-13**]  04:02 AM
                             [**2129-7-13**]  04:27 AM
   WBC
   7.8
   8.7
   Hct
   23.9
   23.6
   Plt
   303
   353
   Cr
   1.5
   1.5
   1.4
   TCO2
   20
   20
   21
   20
   20
   20
   23
   Glucose
   125
   172
   256
   Other labs: PT / PTT / INR:11.9/33.9/1.0, CK / CKMB /
   Troponin-T:5162/4/<0.01, ALT / AST:189/185, Alk Phos / T Bili:80/0.6,
   Amylase / Lipase:74/64, Differential-Neuts:84.5 %, Band:10.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.1 %, Lactic Acid:3.4 mmol/L,
   Albumin:2.8 g/dL, LDH:1073 IU/L, Ca++:7.7 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RHABDOMYOLYSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   PCP (CD4 120!) also includes other PNA (bacterial
 Staph on viral,
   Legionella) vs interstitial inflammatory process (acute interstial pna,
   acute eosionphilic pna) vs vasculitis (less likely as no other organ
   involvement). Intubated. Improved CXR. HIV viral load undetectable. CD4
   low. HIV 1 Ab negative.
   - Cont Linezolid/Zosyn/Azithro
   - Cont Bactrim and Methylprednisolone IV for PCP
   [**Name Initial (PRE) **] Not on fungal converage currently, would expand coverage if pt
   decompensates
   - Closely monitor peak and plateau airway pressures. Wean vent PRN.
   Will decrease PEEP as tolerated.
   -  Legionella antigen, viral culture, blood culture, urine culture so
   far negative
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV, Hep
   B/C
   - F/u B-glucan
   - F/u OSH ask if HIV 2 can be added
   - ID recs
   - Consider pRBC transfusion if worsening
   - Holding off bronch due to PEEP, try to collect sputum for PCP
   [**Name Initial (PRE) **] will need monitor I/O to keep even or slightly negative
   - check methyl Hb due to large difference in ABG PO2 and sats (could be
   med related)
   - wean PEEP to 16
   - diuresis with goal negative 1 liter
   # Hypotension: Improved pressures now in the 100s-110s. TTE on [**7-9**]
   shows LVEF 55%.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now downtrending). CK
   ddx includes viral causes of rhabdomyolysis. LFTs also elevated
   - Closely monitor urine output and give
   - following EKG
   - Closely monitor LDH, CK, AST, ALT.
   - IVF PRN to maintain good UOP
   .
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim. UOP 60-100hr.
   - Monitor Cr (1.6).
   - Avoid nephrotoxins
   .
   # Hyperkalemia: from bactrim vs acidosis vs rhabdo vs ARF
   - [**Hospital1 **] lytes
   - kayxalate today again
   - monitor on tele
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Trending CBC this PM
   - Check peripheral smear to r/o schistocytes (no ARF thus far, MS
   change likely secondary to sedation received in setting of intubation).
   - Type and screen.
   - f/u HIV test from OSH
   .
   # Non-Gap Acidosis: may be secondary to renal failure.
   - will change back to vanco from linezolid
   - will monitor
   .
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. ? Related to
   possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-11**] 06:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now

2129-07-14 07:39:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2129-7-14**] 04:00 AM
   - hicuups continued in evening
   - was given lasix 20mg IV x1, UO of 700ml, then tahcy and given 250ml
   bolus
   - HIV consent received from OSH, our lab will accept it, will use to
   send HIV1/2 test here, lab MD [**First Name (Titles) 43**] [**Last Name (Titles) 6569**] aware
   - hyperkalemia, give kayxalate x 2, insulin 10U IV, and dextrose, no BM
   with miralax, lactulose x 1 given
   - PEEP to 16
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2129-7-13**] 07:51 AM
   Bactrim (SMX/TMP) - [**2129-7-13**] 10:13 AM
   Vancomycin - [**2129-7-13**] 08:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-14**] 03:57 AM
   Infusions:
   Fentanyl (Concentrate) - 225 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-13**] 07:51 AM
   Furosemide (Lasix) - [**2129-7-13**] 12:31 PM
   Midazolam (Versed) - [**2129-7-13**] 02:15 PM
   Fentanyl - [**2129-7-13**] 02:15 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-13**] 02:20 PM
   Insulin - Regular - [**2129-7-13**] 05:30 PM
   Dextrose 50% - [**2129-7-13**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.8
   HR: 129 (111 - 135) bpm
   BP: 118/60(77) {115/59(76) - 166/78(105)} mmHg
   RR: 19 (16 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  4,309 mL
                                                                  1,428 mL
   PO:
   TF:
                                                                  1,357 mL
                                                                    431 mL
   IVF:
                                                                  2,557 mL
                                                                    846 mL
   Blood products:
   Total out:
                                                                  5,800 mL
                                                                  1,100 mL
   Urine:
                                                                  5,800 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,491 mL
                                                                    328 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 506 (0 - 506) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 12
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/43/90.[**Numeric Identifier 433**]/22/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   340 K/uL
   7.5 g/dL
   136
   1.5 mg/dL
   22 mEq/L
   5.5 mEq/L
   34 mg/dL
   108 mEq/L
   140 mEq/L
   22.2 %
   10.5 K/uL
        [image002.jpg]
                             [**2129-7-12**]  05:30 PM
                             [**2129-7-13**]  01:22 AM
                             [**2129-7-13**]  04:02 AM
                             [**2129-7-13**]  04:27 AM
                             [**2129-7-13**]  11:36 AM
                             [**2129-7-13**]  01:28 PM
                             [**2129-7-13**]  03:30 PM
                             [**2129-7-14**]  04:07 AM
                             [**2129-7-14**]  04:31 AM
                             [**2129-7-14**]  06:00 AM
   WBC
   8.7
   10.5
   Hct
   23.6
   22.2
   Plt
   353
   340
   Cr
   1.4
   1.5
   1.5
   TCO2
   20
   20
   23
   21
   21
   26
   Glucose
   [**Telephone/Fax (3) 6570**]36
   Other labs: PT / PTT / INR:12.7/26.5/1.1, CK / CKMB /
   Troponin-T:2672/4/<0.01, ALT / AST:156/104, Alk Phos / T Bili:76/1.6,
   Amylase / Lipase:74/64, Differential-Neuts:84.5 %, Band:10.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.1 %, Lactic Acid:2.6 mmol/L,
   Albumin:2.6 g/dL, LDH:1073 IU/L, Ca++:7.6 mg/dL, Mg++:2.6 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 CONSTIPATION (OBSTIPATION, FOS)
 RHABDOMYOLYSIS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   PCP (CD4 120!) also includes other PNA (bacterial
 Staph on viral,
   Legionella) vs interstitial inflammatory process (acute interstial pna,
   acute eosionphilic pna) vs vasculitis (less likely as no other organ
   involvement). Intubated. Improved CXR. HIV viral load undetectable. CD4
   low. HIV 1 Ab negative. Now off steroids and Bactrim. Negative PCP and
   [**Name9 (PRE) 6580**].  Legionella antigen, viral culture, blood culture, urine
   culture so far negative. Neg Hep C/B. Met Hb normal.
   - Cont Vanco/Zosyn/Azithro
   - based on HIV test will decide if PCP tx needs to be restarted
   - HIV 1 and 2 sent today to lab with consent from OSH, okayed with
   [**Name9 (PRE) 6569**] and lab
   - Not on fungal coverage currently, would expand coverage if pt
   decompensates
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV
   - ID recs
   - wean PEEP to 16 again
   - awaiting lower PEEP to perform [**Last Name (un) 1599**]
   # Tachycardia: occurred over night, in 130s. [**Month (only) 11**] be from infection vs
   hypovolemia vs anemia. Had lasix yesterday and then became tachy. Given
   IVF over night, but still tachy this AM.
   - will transfuse 1 unit of blood
   - IVF as needed
   - will adjust sedation as needed, increase fentanyl
   - tylenol
   # Anemia: unclear cause. Hemolysis labs negative this AM.
   - transfuse 1 unit this AM
   - monitor CBC [**Hospital1 **]
   # Hypotension: Improved pressures now in the 100s-110s. TTE on [**7-9**]
   shows LVEF 55%.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now down trending).
   CK ddx includes viral causes of rhabdomyolysis. LFTs also elevated.
   Resolving
   - Closely monitor urine output
   - Closely monitor LFTs
   - IVF PRN to maintain good UOP
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim. UOP 60-100hr.
   - Monitor Cr (1.6).
   - Avoid nephrotoxins
   - lytes
   # Hyperkalemia: from bactrim vs acidosis vs rhabdo vs ARF; K is 5.5
   after 2 doses of kayxalate, but no BM yet. Given insulin and dextrose
   last night.
   - [**Hospital1 **] lytes
   - kayxalate today again
   - monitor on tele
   # Constipation: no BM, failed lacutose, miralax. [**Month (only) 11**] have abd process
   vs ilieus from critical illness and narcotics.
   - KUB read pending, does not appear to have air fluid levels
   - Enema today if needed
   - consider CT abd this PM if stable
   - may need PO narcan
   # Hiccups unclear cause, may be from ET tube irritating airway
   - on thorazine PRN
   - will pull back ET tube 2cm
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Trending CBC this PM
   - Type and screen active
   - f/u HIV 2 test pending
   # Non-Gap Acidosis: may be secondary to renal failure.
   - will monitor
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. ? Related to
   possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-14**] 02:41 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now

2129-07-15 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2129-7-14**] 10:24 AM
   BC from aline and CVL
 URINE CULTURE - At [**2129-7-14**] 10:38 AM
 MULTI LUMEN - START [**2129-7-14**] 06:07 PM
 MULTI LUMEN - STOP [**2129-7-14**] 08:45 PM
 FEVER - 101.8
F - [**2129-7-14**] 09:00 PM
   - patient tachycardic -> 500 bolus X 4, 1 pRBC (post-HCT 25), 1 L NS
   - persistently febrile. given tylenol, placed cooling blanket,
   recultured
   - HIV Ab negative
   - sugars better controlled: 174, 136, 130
   - FeNa 1.2
   - ID recs: cont vanc/zosyn/azithro for empiric, pan cx
   - KUB: paucity of air
   - LIJ placed. RIJ removed and sent for cx
   - During and after new line placement, pt more tachycardic up to 160,
   dropped O2 sats to 88%. Repeat CXR with worsening bilateral
   consolidations. Bolused fentanyl, started propofol, given another IVF
   bolus, vecuronium 10 mg IV X 1, increased FiO2 and then PEEP to 22.
   Attempting to decrease FiO2.
   - Not stable enough for CT torso
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2129-7-13**] 07:51 AM
   Bactrim (SMX/TMP) - [**2129-7-13**] 10:13 AM
   Vancomycin - [**2129-7-14**] 08:50 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-15**] 04:06 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2129-7-14**] 02:00 PM
   Vecuronium - [**2129-7-14**] 06:29 PM
   Fentanyl - [**2129-7-14**] 06:31 PM
   Metoprolol - [**2129-7-14**] 06:59 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.6
C (97.9
   HR: 111 (104 - 136) bpm
   BP: 113/62(80) {98/56(71) - 138/78(92)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 10 (10 - 15)mmHg
   Total In:
                                                                  5,253 mL
                                                                    521 mL
   PO:
   TF:
                                                                    811 mL
                                                                    192 mL
   IVF:
                                                                  3,562 mL
                                                                    279 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,860 mL
                                                                    620 mL
   Urine:
                                                                  2,860 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,393 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 96%
   ABG: 7.38/45/105/23/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Labs / Radiology
   294 K/uL
   8.7 g/dL
   97 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.0 mEq/L
   38 mg/dL
   111 mEq/L
   143 mEq/L
   25.6 %
   15.7 K/uL
        [image002.jpg]
                             [**2129-7-14**]  12:00 PM
                             [**2129-7-14**]  12:27 PM
                             [**2129-7-14**]  03:47 PM
                             [**2129-7-14**]  04:42 PM
                             [**2129-7-14**]  06:00 PM
                             [**2129-7-14**]  07:07 PM
                             [**2129-7-14**]  09:57 PM
                             [**2129-7-15**]  12:32 AM
                             [**2129-7-15**]  04:15 AM
                             [**2129-7-15**]  04:38 AM
   WBC
   15.7
   Hct
   24.9
   25.6
   Plt
   294
   Cr
   1.3
   1.4
   TCO2
   26
   28
   27
   28
   28
   Glucose
   174
   130
   97
   Other labs: PT / PTT / INR:14.1/32.6/1.2, CK / CKMB /
   Troponin-T:2672/4/<0.01, ALT / AST:109/75, Alk Phos / T Bili:85/3.2,
   Amylase / Lipase:74/64, Differential-Neuts:84.5 %, Band:10.0 %,
   Lymph:10.0 %, Mono:5.0 %, Eos:0.1 %, Lactic Acid:2.6 mmol/L,
   Albumin:2.6 g/dL, LDH:876 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 CONSTIPATION (OBSTIPATION, FOS)
 RHABDOMYOLYSIS
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   PCP (CD4 120!) also includes other PNA (bacterial
 Staph on viral,
   Legionella) vs interstitial inflammatory process (acute interstial pna,
   acute eosionphilic pna) vs vasculitis (less likely as no other organ
   involvement). Intubated. Improved CXR. HIV viral load undetectable. CD4
   low. HIV 1 Ab negative. Now off steroids and Bactrim. Negative PCP and
   [**Name9 (PRE) 6580**].  Legionella antigen, viral culture, blood culture, urine
   culture so far negative. Neg Hep C/B. Met Hb normal.
   - Cont Vanco/Zosyn/Azithro
   - based on HIV test will decide if PCP tx needs to be restarted
   - HIV 1 and 2 sent today to lab with consent from OSH, okayed with
   ethics and lab
   - Not on fungal coverage currently, would expand coverage if pt
   decompensates
   - f/u ehrlichia, eichinococcus, entamoeba, mycoplasma, HSV, CMV
   - ID recs
   - wean PEEP to 16 again
   - awaiting lower PEEP to perform [**Last Name (un) 1599**]
   # Tachycardia: occurred over night, in 130s. [**Month (only) 11**] be from infection vs
   hypovolemia vs anemia. Had lasix yesterday and then became tachy. Given
   IVF over night, but still tachy this AM.
   - will transfuse 1 unit of blood
   - IVF as needed
   - will adjust sedation as needed, increase fentanyl
   - tylenol
   # Anemia: unclear cause. Hemolysis labs negative this AM.
   - transfuse 1 unit this AM
   - monitor CBC [**Hospital1 **]
   # Hypotension: Improved pressures now in the 100s-110s. TTE on [**7-9**]
   shows LVEF 55%.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now down trending).
   CK ddx includes viral causes of rhabdomyolysis. LFTs also elevated.
   Resolving
   - Closely monitor urine output
   - Closely monitor LFTs
   - IVF PRN to maintain good UOP
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim. UOP 60-100hr.
   - Monitor Cr (1.6).
   - Avoid nephrotoxins
   - lytes
   # Hyperkalemia: from bactrim vs acidosis vs rhabdo vs ARF; K is 5.5
   after 2 doses of kayxalate, but no BM yet. Given insulin and dextrose
   last night.
   - [**Hospital1 **] lytes
   - kayxalate today again
   - monitor on tele
   # Constipation: no BM, failed lacutose, miralax. [**Month (only) 11**] have abd process
   vs ilieus from critical illness and narcotics.
   - KUB read pending, does not appear to have air fluid levels
   - Enema today if needed
   - consider CT abd this PM if stable
   - may need PO narcan
   # Hiccups unclear cause, may be from ET tube irritating airway
   - on thorazine PRN
   - will pull back ET tube 2cm
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Trending CBC this PM
   - Type and screen active
   - f/u HIV 2 test pending
   # Non-Gap Acidosis: may be secondary to renal failure.
   - will monitor
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. ? Related to
   possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-14**] 02:41 AM 55 mL/hour
   Glycemic Control:
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now

2129-07-16 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2129-7-15**] 01:30 PM
   - CT Torso (prelim)
   Extensive bilateral pulmonary consolidation and ground-glass density.
   Small bilateral pleural effusions. Hepatic segment II hypodensity is
   likely a cyst. Otherwise, the limited, non-contrast abdomen/pelvis are
   unremarkable.
   - d/c'd azithro, started levofloxacin
   - decreased PEEP to 18
   - RUQ U/S-
   IMPRESSION:
   1. Gallbladder sludge with no evidence of cholecystitis.
   2. Left hepatic cyst unchanged from that described on CT done on the
   same
   day.
   - lasix 10 IV given at 5pm
   - during the night oxygen sats decreased to 50s, was placed on FIO2
   100%, PEEP 22, then sats in low to mid 90s, pt on paralytics
   - ID- to increase dose of vanco
   - considering Bactrim but not restarted
   - steroids increased to 60 mg [**Hospital1 **]
   - given Caspofungin x1 dose
   - had 1 L BM, but K was 6.0, so given kayexalate and insulin, Amp D5
   and D5W1/2 NS
   - IVF bolus given for low UO
   - reordering Prone bed this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2129-7-13**] 07:51 AM
   Bactrim (SMX/TMP) - [**2129-7-13**] 10:13 AM
   Levofloxacin - [**2129-7-15**] 11:00 AM
   Vancomycin - [**2129-7-15**] 08:09 PM
   Caspofungin - [**2129-7-16**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-16**] 04:59 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-15**] 02:00 PM
   Furosemide (Lasix) - [**2129-7-15**] 09:18 PM
   Vecuronium - [**2129-7-15**] 11:28 PM
   Insulin - Regular - [**2129-7-16**] 06:09 AM
   Dextrose 50% - [**2129-7-16**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-16**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 116 (92 - 140) bpm
   BP: 129/70(89) {88/50(64) - 137/73(94)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,638 mL
                                                                  1,055 mL
   PO:
             TF:
                                                                    530 mL
                                                                    238 mL
   IVF:
                                                                  1,887 mL
                                                                    767 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,260 mL
   Urine:
                                                                  2,110 mL
                                                                    260 mL
   NG:
   Stool:
   1,000 mL
   Drains:
                                                                    550 mL
   Balance:
                                                                    978 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 37 cmH2O
   SpO2: 94%
   ABG: 7.39/48/89.[**Numeric Identifier 433**]/26/2
   Ve: 12.8 L/min
   PaO2 / FiO2: 127
   Physical Examination
   GEN: intubated and sedated, paralyzed
   CHEST: rhonchi B
   CV: tachy, no M
   ABD: moderate distension
   EXT: edema present
   Labs / Radiology
   275 K/uL
   7.8 g/dL
   161
   1.5 mg/dL
   26 mEq/L
   6.0 mEq/L
   42 mg/dL
   109 mEq/L
   144 mEq/L
   23.3 %
   14.8 K/uL
        [image002.jpg]
                             [**2129-7-15**]  12:32 AM
                             [**2129-7-15**]  04:15 AM
                             [**2129-7-15**]  04:38 AM
                             [**2129-7-15**]  04:14 PM
                             [**2129-7-15**]  05:20 PM
                             [**2129-7-15**]  08:47 PM
                             [**2129-7-16**]  01:57 AM
                             [**2129-7-16**]  04:07 AM
                             [**2129-7-16**]  04:29 AM
                             [**2129-7-16**]  06:00 AM
   WBC
   15.7
   14.8
   Hct
   25.6
   23.3
   Plt
   294
   275
   Cr
   1.4
   1.5
   TCO2
   28
   28
   28
   27
   29
   30
   30
   Glucose
   97
   127
   161
   161
   Other labs: PT / PTT / INR:14.7/30.1/1.3, CK / CKMB /
   Troponin-T:2672/4/<0.01, ALT / AST:95/64, Alk Phos / T Bili:81/2.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.2 mmol/L, Albumin:2.6
   g/dL, LDH:746 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   infectious PNA (bacterial
 Staph on viral, Legionella, Nocardia, PCP
   but cx negative) vs interstitial inflammatory process (acute interstial
   pna, acute eosionphilic pna) vs vasculitis (less likely as no other
   organ involvement). Intubated. Improved CXR. HIV viral load
   undetectable. CD4 count 120 HIV 1 and 2 Ab negative. Now on steroids,
   but off Bactrim. Negative PCP and [**Name9 (PRE) 6580**] x1.  Legionella antigen,
   viral culture, blood culture, urine culture so far negative. Neg Hep
   C/B. Met Hb normal. s/p Azithro (6/4
 [**7-15**]). Had a dose of caspo on
   [**7-16**]. Likely explanation for decline overnight on [**7-16**] was due to too
   rapid of decline on PEEP. Ehrlichia, CVM, mycoplasma negative. Has HSV1
   IgG low levels.
   - Cont Vanco/Zosyn/Levo
   - will hold paralytics since on steroids
   - continue steriods
   - Hold off on further funcgacide tx., but will expand coverage if pt
   decompensates
   - f/u eichinococcus, entamoeba and cxs
   - ID recs
   - wean PEEP to 16 again
   - awaiting lower PEEP to perform [**Last Name (un) 1599**]
   - will recheck PCP DFA, [**Name9 (PRE) 6580**], [**Name9 (PRE) 6644**]
   # Tachycardia: 100s-130s. Possibly [**3-7**] infection vs hypovolemia vs
   anemia.
   - will adjust sedation as needed
   - Tylenol PRN
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Hypotension: Improved pressures now in the 100s-110s. TTE on [**7-9**]
   shows LVEF 55%.
   - IVF boluses to maintain UO > 30 cc/hr, MAPs > 60.
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now down trending).
   CK ddx includes viral causes of rhabdomyolysis. LFTs also elevated. CK
   today 900
   - Closely monitor urine output
   - Closely monitor LFTs
   - IVF PRN to maintain good UOP
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim. UOP 60-100hr.
   - Monitor Cr (1.4).
   - Avoid nephrotoxins
   # Hyperkalemia: from bactrim vs acidosis vs rhabdo vs ARF; K is 5.5
   after 2 doses of kayxalate, but no BM yet. Given insulin and dextrose
   last night. Starting to stool this AM
   - [**Hospital1 **] lytes
   - kayxalate today again if needed
   - monitor on [**Last Name (LF) 6645**], [**First Name3 (LF) 116**] check EKG
   # Constipation/Diarrhea: no BM, failed lacutose, miralax. [**Month (only) 11**] have abd
   process vs ilieus from critical illness and narcotics. KUB
   unremarkable. Now with diarrhea, may be from contrast and PO bowel
   meds.
   - will check c. diff
   - holding bowel meds
   - flexiseal
   # Hiccups unclear cause, may be from ET tube irritating airway. None
   today, on paralytics
   - d/c thorazine
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Non-Gap Acidosis: may be secondary to renal failure.
   - will monitor
   # Hyponatremia: - Possibly secondary to being intravascularly dry given
   ongoing losses from fevers and report of poor po intake. ? Related to
   possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-15**] 05:22 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU care continued as above

2129-07-16 09:44:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo previously healthy male with respiratory failure and ARDS in
   setting of multi-focal pneumonia:
   24 Hour Events:
RUQ  ULTRASOUND - At [**2129-7-15**] 01:30 PM--sludge, no chole
    CT chest and torso--b/l sm effusions, b/l lung consolidation, no acute
   process in abd
   PEEP was slowly decreased over course of yesterday--> tolerated
   initially then developed worsening oxygenation (sats 50%)--> peep
   increased to 20 and FIO2 100%, paralytics restarted for dysynchrony
   with vent
   In setting of acute worsening resp status steroids were resumed and
   caspofungin x 1 added empirically given fevers
   Diuresed yesterday
 u/o decreased
 IVF given
   Increased diarrhea (had received kayexalate and aggressive bowel reg
   for constipation earlier in course)
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-7-13**] 10:13 AM
   Levofloxacin - [**2129-7-15**] 11:00 AM
   Caspofungin - [**2129-7-16**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-16**] 04:59 AM
   Vancomycin - [**2129-7-16**] 07:49 AM
   Infusions:
   Cisatracurium - 0.06 mg/Kg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-15**] 02:00 PM
   Furosemide (Lasix) - [**2129-7-15**] 09:18 PM
   Vecuronium - [**2129-7-15**] 11:28 PM
   Insulin - Regular - [**2129-7-16**] 06:09 AM
   Dextrose 50% - [**2129-7-16**] 06:09 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-16**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 115 (92 - 140) bpm
   BP: 127/67(86) {88/50(64) - 137/73(94)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  3,638 mL
                                                                  1,534 mL
   PO:
             TF:
                                                                    530 mL
                                                                    287 mL
   IVF:
                                                                  1,887 mL
                                                                  1,137 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,400 mL
   Urine:
                                                                  2,110 mL
                                                                    400 mL
   NG:
   Stool:
   1,000 mL
   Drains:
                                                                    550 mL
   Balance:
                                                                    978 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 43 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.39/48/89.[**Numeric Identifier 433**]/26/2
   Ve: 13.7 L/min
   PaO2 / FiO2: 127
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, + BS, distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting
   Skin:  no rash, warm
   Neurologic: Sedated,
   Labs / Radiology
   7.8 g/dL
   275 K/uL
   161
   1.5 mg/dL
   26 mEq/L
   6.0 mEq/L
   42 mg/dL
   109 mEq/L
   144 mEq/L
   23.3 %
   14.8 K/uL
        [image002.jpg]
                             [**2129-7-15**]  12:32 AM
                             [**2129-7-15**]  04:15 AM
                             [**2129-7-15**]  04:38 AM
                             [**2129-7-15**]  04:14 PM
                             [**2129-7-15**]  05:20 PM
                             [**2129-7-15**]  08:47 PM
                             [**2129-7-16**]  01:57 AM
                             [**2129-7-16**]  04:07 AM
                             [**2129-7-16**]  04:29 AM
                             [**2129-7-16**]  06:00 AM
   WBC
   15.7
   14.8
   Hct
   25.6
   23.3
   Plt
   294
   275
   Cr
   1.4
   1.5
   TCO2
   28
   28
   28
   27
   29
   30
   30
   Glucose
   97
   127
   161
   161
   Other labs: PT / PTT / INR:14.7/30.1/1.3, CK / CKMB /
   Troponin-T:2672/4/<0.01, ALT / AST:95/64, Alk Phos / T Bili:81/2.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.2 mmol/L, Albumin:2.6
   g/dL, LDH:746 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Imaging: ct chest reviewed--multifocal consolidation L > R and diffuse
   GGO
   cxr--multifocal process, et, L IJ in position
   Microbiology: urine cx--> yeast [**7-14**]
   bl ngtd
   sputum--ngtd/neg
   Assessment and Plan
 ANEMIA, OTHER
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 CONSTIPATION (OBSTIPATION, FOS)
 RHABDOMYOLYSIS
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 HYPOTENSION (NOT SHOCK)
   55 yo previously healthy male w/ respiratory failure and ards in
   setting of multi-focal pneumonia
   Suspect  worsening oxygenation overnight  is at least in part related
   to peep dependence with derecruitement at lower peep.  Micro data has
   been unrevealing to date.  Have a high concern for viral process
   possibly with bacterial superinfection.  As this pt was previously
   healthy with neg HIV and no known immuno-suppression, much lower
   suspicion for fungal process, PCP, [**Name Initial (NameIs) 6637**].  DDX also includes steroid
   responsive processes such as BOOP, AEP (had neg eos on mini-bal at
   presentation, pulm renal syndrome (less likely given mild and stable
   ARF), DAH.
   Issues include:
   # Acute Respiratory Failure/ARDS/ Multi-focal pneumonia
   # elevated LDH
   leukocytosis
   ARF
   HyperK
   Adb distension
   diarrhea
   Agree with plan to continue levo, vanco, zosyn (azithromycin changed to
   levoquin yesterday). Discontinue caspo given low suspicion for fungal
   infection.  Will hold on restarting Bactrim but would add back if he
   worsens.  Patient is HIV negative and PCP DFA negative
is unlikely that
   he has PCP.  [**Name10 (NameIs) **] recheck PCP DFA from ET sx.  Also send sputum for
   [**Name10 (NameIs) 6637**] which Bactrim would also cover.  Will continue steroids for
   now and follow clinically as is possibly a steroid-responsive process
   and worsening is temporally related to d/c steroids.  He is too
   unstable to tolerate bronch (high peep and fio2) or even mini BAL or
   vats for bx.  Will continue current vent settings with ards net TVs,
   maintaining high peep (has esoph balloon) at this time and weaning FIO2
   as able.  D/c paralytics given risk for myopathy in conjunction with
   steroids.  Dysynchrony with vent seems primarily related to hiccups.
   IIf unable to manage or if pressures increase further would use
   intermittent bolus paralytics.  He does have significant v/q
   mismatch
will prone/use Rota bed to improve oxygenation.
   His LDH is trending down.  Suspect this  is related to pulm
   process/pulm destruction and ? rhabdo, and much ess likely  an
   underlying hematologic process.
   His cr remains stably mildy elevated with u/o responding to ivf.
   Renally dose meds and avoid nephrotoxins.
   In terms of hyperK
monitor, is s/p kayexalate, repeat cpk / check phos
   given recent rhabdo
   His abdominal distension is better-- softer on exam.  Now with diarrhea
   after sig bowel regimen with no evidence of obstruction on ct abd but
   with decreased BS likely from ileus.  He is tolerating TFs.  Will
   follow serial exams and d/c bowel regimen.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-15**] 05:22 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: fixed dose
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2129-07-17 07:40:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 BLOOD CULTURED - At [**2129-7-17**] 04:01 AM
 FEVER - 102.0
F - [**2129-7-17**] 04:00 AM
   - CK was in 900s
   - On EKG for elevated K, noted to have <1mm elevation in ST of II, and
   aVF, CE x 2 negative
   - potassium improving with stool
   - c. diff sent
   - continued on steriods
   - FIO2 to 60% on prone bed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-15**] 11:00 AM
   Caspofungin - [**2129-7-16**] 04:00 AM
   Ciprofloxacin - [**2129-7-16**] 10:00 AM
   Vancomycin - [**2129-7-16**] 08:02 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-17**] 05:10 AM
   Infusions:
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 99 (97 - 115) bpm
   BP: 153/60(92) {92/38(58) - 176/88(134)} mmHg
   RR: 29 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,362 mL
                                                                    623 mL
   PO:
             TF:
                                                                    863 mL
                                                                    368 mL
   IVF:
                                                                  2,289 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  4,930 mL
                                                                  1,005 mL
   Urine:
                                                                  2,980 mL
                                                                    705 mL
   NG:
   Stool:
                                                                  1,950 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,568 mL
                                                                   -382 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 60%
   PIP: 38 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.43/48/119/29/7
   Ve: 13.7 L/min
   PaO2 / FiO2: 198
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   296 K/uL
   7.6 g/dL
   249 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   53 mg/dL
   110 mEq/L
   149 mEq/L
   23.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2129-7-16**]  01:57 AM
                             [**2129-7-16**]  04:07 AM
                             [**2129-7-16**]  04:29 AM
                             [**2129-7-16**]  06:00 AM
                             [**2129-7-16**]  08:59 AM
                             [**2129-7-16**]  03:37 PM
                             [**2129-7-16**]  05:13 PM
                             [**2129-7-17**]  12:10 AM
                             [**2129-7-17**]  04:05 AM
                             [**2129-7-17**]  04:39 AM
   WBC
   14.8
   11.6
   Hct
   23.3
   23.0
   Plt
   275
   296
   Cr
   1.5
   1.7
   1.6
   1.7
   TropT
   0.03
   0.02
   TCO2
   30
   30
   30
   32
   33
   Glucose
   161
   161
   218
   181
   243
   249
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:97/60, Alk Phos / T Bili:74/1.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.1 mmol/L, Albumin:2.5
   g/dL, LDH:698 IU/L, Ca++:249.0, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HYPOXEMIA
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: [**3-7**] multifocal PNA. DDx: CAP vs
   infectious PNA vs interstitial inflammatory process (acute interstial
   pna, acute eosionphilic pna) vs vasculitis. Intubated. HIV 1 and 2
   negative. CD4 count 120. Now on steroids, but off Bactrim. Negative PCP
   and [**Name9 (PRE) 6580**] x1.  Legionella antigen, viral culture, blood culture,
   urine culture so far negative. Neg Hep C/B. Met Hb normal. s/p Azithro
   (6/4
 [**7-15**]). Had a dose of caspo on [**7-16**]. Likely explanation for
   decline overnight on [**7-16**] was due to too rapid of decline on PEEP.
   Ehrlichia, CVM, mycoplasma negative. Has HSV1 IgG low levels. On less
   FiO2 this AM, on 50% this AM.
   - Cont Vanco/Zosyn/Levo
   - continue steriods
   - Hold off on further funcgacide tx., but will expand coverage if pt
   decompensates
   - f/u eichinococcus, entamoeba and cxs
   - ID recs
   - wean PEEP to 20 today once stable gas on FIO2 50%
   - awaiting lower PEEP to perform [**Last Name (un) 1599**]
   - will follow results of seond B-glucan, galatomanan
   - continue prone bed
   - will check vanco trough before 4^th dose
   # Hypertension: Has hx of htn at baseline. Today BP in upper 100s to
   200.
   - goal BP <160
   - will start metoprolol today low dose
   # Elevated LDH, CK: CK max 11K. Both LDH and CK  (now down trending).
   CK ddx includes viral causes of rhabdomyolysis. LFTs also elevated. CK
   today 900
   - Closely monitor urine output
   - Closely monitor LFTs
   - IVF PRN to maintain good UOP
   # ARF: Potentially secondary to Rhabdo, false elevation secondary to
   Bactrim initially, but now still with renal failure. UOP 60-100hr.
   - Monitor Cr (1.4).
   - Avoid nephrotoxins
   - will review and renally dose meds
   - will recheck urine lytes
   # Hypernatremia: - Possibly secondary to being intravascularly dry
   given ongoing losses from fevers and report of poor po intake. ?
   Related to possible PCP [**Name Initial (PRE) 5656**].
   - Monitor Na.
   - will calculate free water deficit, and give adequate free water
   # Hyperkalemia: from bactrim vs acidosis vs rhabdo vs ARF; K was 5.5
   after 2 doses of kayxalate. Given insulin and dextrose. Stooling for
   last 24 hours and improving to <5.
   - [**Hospital1 **] lytes
   - kayxalate today again if needed
   - monitor on tele
   # Constipation/Diarrhea: no BM, failed lacutose, miralax. [**Month (only) 11**] have abd
   process vs ilieus from critical illness and narcotics. KUB
   unremarkable. Now with diarrhea, may be from contrast and PO bowel
   meds.  C. Diff negative.
   - holding bowel meds
   - flexiseal
   # Diabetes: blood sugars elevated. Was on D5 yesterday, but still
   elevated mainly >200.
   - will calculate SSI to add to lantus, if needed will start insulin gtt
   # Tachycardia: 100s-130s. Possibly [**3-7**] infection vs hypovolemia vs
   anemia. Resolved
   # Hiccups unclear cause, may be from ET tube irritating airway. None
   today, on paralytics
   - resolved
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Non-Gap Acidosis: may be secondary to renal failure.
   - will monitor
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   - CT head once more stable
   ICU Care
   Nutrition:
   Renal tube feeds
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-8**] 07:55 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now

2129-07-17 09:48:00 Physician Attending Progress Note
Chief Complaint: ards/resp failure/multifocal pna
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo previously healthy male w/ respiratory failure and ards in
   setting of multi-focal pneumonia
   24 Hour Events:
 BLOOD CULTURED - At [**2129-7-17**] 04:01 AM
 FEVER - 102.0
F - [**2129-7-17**] 04:00 AM
   fio2 weaned to 50%
   rota bed restarted
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-15**] 11:00 AM
   Caspofungin - [**2129-7-16**] 04:00 AM
   Ciprofloxacin - [**2129-7-16**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-17**] 05:10 AM
   Vancomycin - [**2129-7-17**] 07:50 AM
   Infusions:
   Midazolam (Versed) - 6.5 mg/hour
   Fentanyl (Concentrate) - 320 mcg/hour
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-17**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.1
C (100.6
   HR: 98 (97 - 110) bpm
   BP: 152/59(91) {92/38(58) - 176/88(134)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,362 mL
                                                                  1,008 mL
   PO:
             TF:
                                                                    863 mL
                                                                    464 mL
   IVF:
                                                                  2,289 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  4,930 mL
                                                                  1,365 mL
   Urine:
                                                                  2,980 mL
                                                                  1,065 mL
   NG:
   Stool:
                                                                  1,950 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,568 mL
                                                                   -357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 22 cmH2O
   FiO2: 50%
   PIP: 39 cmH2O
   Plateau: 37 cmH2O
   SpO2: 96%
   ABG: 7.43/48/119/29/7
   Ve: 13.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), rales at bases (lat)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   296 K/uL
   249 mg/dL
   1.7 mg/dL
   29 mEq/L
   4.4 mEq/L
   53 mg/dL
   110 mEq/L
   149 mEq/L
   23.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2129-7-16**]  01:57 AM
                             [**2129-7-16**]  04:07 AM
                             [**2129-7-16**]  04:29 AM
                             [**2129-7-16**]  06:00 AM
                             [**2129-7-16**]  08:59 AM
                             [**2129-7-16**]  03:37 PM
                             [**2129-7-16**]  05:13 PM
                             [**2129-7-17**]  12:10 AM
                             [**2129-7-17**]  04:05 AM
                             [**2129-7-17**]  04:39 AM
   WBC
   14.8
   11.6
   Hct
   23.3
   23.0
   Plt
   275
   296
   Cr
   1.5
   1.7
   1.6
   1.7
   TropT
   0.03
   0.02
   TCO2
   30
   30
   30
   32
   33
   Glucose
   161
   161
   218
   181
   243
   249
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:97/60, Alk Phos / T Bili:74/1.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.1 mmol/L, Albumin:2.5
   g/dL, LDH:698 IU/L, Ca++:249.0, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: trop 0.03-->0.02
   alb 2.5
   lft trending down
   Imaging: cxr--ET, L IJ, NGT in position, underpenetrated, continued b/l
   diffuse asd but with improved aeration L base
   Microbiology: line  tip neg (r ij)
   bd glucan/galacto pending
   bl/fungal ngtd
   c diff neg
   urine--yeast from earlier cx, repeat pending
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HYPOXEMIA
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   55 yo previously healthy male w/ respiratory failure and ards in
   setting of multi-focal pneumonia
   Making very slow progress in terms of resp status
now on 50% fio2.
   Micro data remains unrevealing to date.  Have a high concern for viral
   process possibly with bacterial superinfection.  As this pt was
   previously healthy with neg HIV and no known immuno-suppression, much
   lower suspicion for fungal process, PCP, [**Name Initial (NameIs) 6637**].  DDX also includes
   steroid responsive processes such as BOOP, AEP (had neg eos on mini-bal
   at presentation), pulm renal syndrome or DAH (less likely given mild
   and stable ARF, stable hct, no boloody et sx).
   Issues include:
          Acute Respiratory Failure/ARDS/ Multi-focal pneumonia
          elevated LDH
          Leukocytosis/fevers
          ARF
          hypernatremia
          Adb distension (improving)
          Diarrhea
          Htn
          Hyperglycemia
          Rahbdo / hyperK (resolved0
   Agree with plan to continue levo, vanco, zosyn empirically for
   bacterial pna, following vanco level.  We have not restarted Bactrim
   but will resume if clinically worsens.  Patient is HIV negative and PCP
   DFA [**Name9 (PRE) 6658**] unlikely that he has PCP.  [**Name10 (NameIs) 6655**] fungal markers and
   dfa for pcp [**Name Initial (PRE) **].  Will continue steroids for possible
   steroid-responsive process and worsening that seemed temporally related
   to d/c steroids.  He remains too unstable to tolerate bronch (given
   high peep of 22) or vats for bx.  Will continue PRVC vent support with
   ards net TVs.  Will slowly wean peep (down to 20) following abg as he
   remains very peep dependent.  Given significant v/q mismatch
will
   continue proning/using Rota bed to improve oxygenation (would d/c after
   additional 24 hrs).   His PIPS/Plt remain 38-40.  Have d/c
   paralytics given risk for myopathy in conjunction with steroids.  Low
   threshold for resuming intermittent bolus vec if pressures increase.
   He remains on high amts of sedation which will ultimately complicate
   extubation down the line if pt improves
pharm consult as may benefit
   from adding methadone and decrease fentanyl gtt.
   Continued fevers
suspect this is related to lung destruction/multifocal
   pna or viral process.  Continue to monitor for new infections.  Has new
   lines, is at risk for sinusitis given 9 days intubation-- consider CT
   sinuses if there is drainable collection.
   He is now hypertensive (on atenolol at home)
will start short acting
   metoprolol at low dose and titrate.  Diurese gently with lasix.
   LDH is trending down.  Suspect  is related to pulm process/pulm
   destruction and ? rhabdo earlier in course, and much less likely  an
   underlying hematologic process.  T bili, ck trending down/nl.
   His cr remains stable but mildly elevated
pre-renal vs atn.  Good u/o.
   Resend urine lytes.  Renally dose meds and avoid nephrotoxins.
   Calculate free water deficit and give free water to correct his
   hypernatremia.
   His abdominal distension is better-- softer on exam and now with
   improved BS.  Likely partial ileus.  Now with diarrhea after sig bowel
   regimen with no evidence of obstruction on ct abd.  He is tolerating
   TFs.  Will follow serial exams and d/c bowel regimen.
   Hyperglycemia in setting of d5w and steroids
will adjust ssi/lantus and
   initiate insulin drip if unable to optimize for 150-200 range.
   Remainder as per resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-16**] 04:00 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: lantus 10
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT:  sq hep
   Stress ulcer:  H2b
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-07-18 07:00:00 Physician Resident Progress Note
MICU Intern Progress Note:
   Chief Complaint:
   24 Hour Events:
   - decreased PEEP to 20
   - ID: check vanc trough prior to next dose
   - FeNa: 0.5% prerenal - adjust I/O goal to -500 L, if no improvement in
   am consider albumin
   - Hypertensive: started Metoprolol 25 mg TID, one time dose Hydralazine
   IV
   - HyperNa: FWD 3.2 L
   - Sugar elevated - increased glargine to 20
   - Due to high does of sedation discuss with pharm in am methadone
   - Confirmed patient married to [**Name (NI) 1442**] (wife) therefore HCP
   - Family brought in meds patient was taking at home: cefaclor 250 mg po
   tid, promethazine/codeine [**2-4**] teaspoons qid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2129-7-16**] 04:00 AM
   Levofloxacin - [**2129-7-17**] 10:15 AM
   Vancomycin - [**2129-7-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-18**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 320 mcg/hour
   Midazolam (Versed) - 6.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-7-17**] 10:31 AM
   Hydralazine - [**2129-7-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-18**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.3
C (101
   HR: 87 (87 - 137) bpm
   BP: 164/74(101) {136/55(87) - 198/86(120)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  3,197 mL
                                                                    469 mL
   PO:
             TF:
                                                                  1,059 mL
                                                                    244 mL
   IVF:
                                                                  1,308 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  4,320 mL
                                                                  1,175 mL
   Urine:
                                                                  4,020 mL
                                                                  1,175 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,123 mL
                                                                   -706 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 38 cmH2O
   Plateau: 36 cmH2O
   SpO2: 94%
   ABG: 7.47/43/124/28/7
   Ve: 13 L/min
   PaO2 / FiO2: 248
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   278 K/uL
   7.8 g/dL
   245 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   62 mg/dL
   110 mEq/L
   147 mEq/L
   22.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2129-7-16**]  05:13 PM
                             [**2129-7-17**]  12:10 AM
                             [**2129-7-17**]  04:05 AM
                             [**2129-7-17**]  04:39 AM
                             [**2129-7-17**]  10:56 AM
                             [**2129-7-17**]  02:26 PM
                             [**2129-7-17**]  06:00 PM
                             [**2129-7-17**]  09:00 PM
                             [**2129-7-18**]  03:41 AM
                             [**2129-7-18**]  03:57 AM
   WBC
   11.6
   11.9
   Hct
   23.0
   22.8
   Plt
   296
   278
   Cr
   1.6
   1.7
   1.7
   1.8
   TropT
   0.02
   TCO2
   32
   33
   28
   28
   32
   32
   Glucose
   181
   243
   249
   239
   245
   Other labs: PT / PTT / INR:14.0/24.1/1.2, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:108/70, Alk Phos / T Bili:71/1.1,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.3 mmol/L, Albumin:2.5
   g/dL, LDH:656 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55 M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Patient continues to have fevers
   and high PEEP requirement while on Vanc/Zosyn/Levo for 10 days and
   despite re-starting steroids. Unclear etiology of patient
s lack of
   response to treatment. Differential still includes CAP vs interstitial
   inflammatory process (acute interstial pna, acute eosionphilic pna) vs
   vasculitis. Vasculitis was lower on differential, however in setting of
   continuing renal failure should be re considered. So far infectious
   work-up involves: HIV 1 and 2 negative. Negative PCP and [**Name9 (PRE) 6580**] [**Name Initial (PRE) **] 1.
   Legionella antigen, viral culture, blood culture negative. Urine
   culture yeast only. Neg Hep C/B. Met Hb normal. Had a dose of caspo on
   [**7-16**], was discontinued following discussion with ID. Ehrlichia, CVM,
   mycoplasma negative. Has HSV1 IgG low levels. Echinococcus and
   Entamoeba pending with repeat B-glucan, galactomanan.
   - Cont Vanco/Zosyn/Levo. s/p Azithro (6/4
 [**7-15**]).
   - Due to diarrhea start empiric Flagyl, send C. Diff
   - Continue steroids
   - Discuss with ID
 re-starting Bactrim, Antifungal, other possible
   etiologies
   - Send [**Doctor First Name **], ANCA, anti-gbm for vasculitis work-up
   - Vanc trough tonight at 8 pm
   - f/u eichinococcus, entamoeba, B-glucan, galactomanan and cxs
   - wean PEEP to 18 today, awaiting lower PEEP to perform [**Last Name (un) 1599**]
   - send repeat urine culture now that foley has been changed
   - continue prone bed
   # Hypertension: Has hx of htn at baseline.
   - goal BP <160
   - continue metoprolol 25mg TID
   - switch versed/fentanyl to propofol, if unable increase metoprolol
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, however is third spacing.
    - 1 unit pRBC for anemia and intravascular repletion
   - [**Hospital1 **] lytes
   - Avoid nephrotoxins
   - will review and renally dose meds
   # Hypernatremia: Hypovolemia hyponatremia.
   - [**Hospital1 **] Na.
   - will calculate free water deficit, and give adequate free water.
   Started on D10W 50 cc/hr for 1 L.
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative.
   - holding bowel meds
   - flexiseal
   - send c. diff
   # Diabetes: blood sugars elevated. Patient did not get full dose off
   glargine last night, start insulin drip
   - will calculate SSI to add to lantus, if needed will start insulin gtt
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Hyperkalemia: resolved since changing to renal tube feeds.
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-17**] 09:53 PM 35 mL/hour
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan with the following
   emphasis/changes:
   54 year old male who presented with fevers and cough and found to be in
   respiratory failure with severe multi-focal pneumonia. Has been on
   mechanical ventilation for over 1 week and remains febrile and with
   significant respiratory compromise.
   T 101.7 P 90s  BP 160s/80s  RR 30  Sat 94%
   Gen: Sedated on rotaprone bed
   Chest: CTA bilaterally
   Cor: S1 S2 reg
   Abd: Soft NT ND
   Ext: Trace edema bilaterally
   A:
   1) Acute Respiratory Failure:
   - Decrease PEEP by 2
   - Vanc/Zosyn/Levo
   - Add Flagyl for C. diff
   - After discussion with ID, will add anti-fungal and Bactrim as patient
   continues to worsen and it does not appear that we have adequate source
   control
   - Add anti-[**Last Name (LF) **], [**First Name3 (LF) **]
   2) Acute Renal Failure:
   a. Will transfuse PRBCs to see if this improves end-organ perfusion
   3) Diarrhea:
   a. Will add Flagyl for C. diff
   4) Hypertension: unclear etiology and may be
   5) Hyperglycemia: Insulin drip
   6) Anemia:
   Critical Care: 65 minutes
   Addendum: During the day, patient oxygenation worsened and required
   proning.  As noted, we have now added anti-fungal therapy and Bactrim.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2129-7-18**] 18:25 ------

2129-07-19 07:15:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - restarted bactrim, added metronidazole and micafungin
   - started on insulin gtt
   - persistently hypertensive to 170s-180s --> hydralazine 10 IV q6h
   - autoimmune panel sent - [**Doctor First Name **], anti-GBM, ANCA
   - receiving D5W for hypernatremia - Na downtrending
   - transitioned from midazolam to propofol gtt, continuing fentanyl gtt
   - received 1 prbc w appropriate Hct bump
   - continues to be intubated w fevers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-18**] 10:00 AM
   Vancomycin - [**2129-7-18**] 09:06 PM
   Micafungin - [**2129-7-18**] 11:00 PM
   Bactrim (SMX/TMP) - [**2129-7-18**] 11:30 PM
   Metronidazole - [**2129-7-19**] 04:10 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-19**] 04:10 AM
   Infusions:
   Insulin - Regular - 11.5 units/hour
   Fentanyl (Concentrate) - 320 mcg/hour
   Other ICU medications:
   Hydralazine - [**2129-7-18**] 04:39 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-18**] 08:45 PM
   Other medications:
   Flowsheet Data as of  [**2129-7-19**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.3
   HR: 78 (76 - 126) bpm
   BP: 119/60(78) {119/60(78) - 194/92(125)} mmHg
   RR: 30 (0 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80 kg (admission): 81.6 kg
   Height: 70 Inch
    Bladder pressure: 8 (8 - 8) mmHg
   Total In:
                                                                  5,363 mL
                                                                  1,519 mL
   PO:
   TF:
                                                                    744 mL
                                                                    254 mL
   IVF:
                                                                  3,189 mL
                                                                  1,206 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,835 mL
                                                                  1,010 mL
   Urine:
                                                                  2,835 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,528 mL
                                                                    509 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 36 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.45/40/68/25/3
   Ve: 14.1 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   230 K/uL
   9.0 g/dL
   101 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.5 mEq/L
   50 mg/dL
   105 mEq/L
   141 mEq/L
   25.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2129-7-17**]  02:26 PM
                             [**2129-7-17**]  06:00 PM
                             [**2129-7-17**]  09:00 PM
                             [**2129-7-18**]  03:41 AM
                             [**2129-7-18**]  03:57 AM
                             [**2129-7-18**]  10:56 AM
                             [**2129-7-18**]  05:00 PM
                             [**2129-7-18**]  05:23 PM
                             [**2129-7-19**]  04:23 AM
                             [**2129-7-19**]  06:32 AM
   WBC
   11.9
   13.2
   Hct
   22.8
   24.7
   25.4
   Plt
   278
   230
   Cr
   1.7
   1.8
   1.9
   1.4
   TCO2
   28
   32
   32
   34
   31
   29
   Glucose
   [**Telephone/Fax (3) 6698**]01
   Other labs: PT / PTT / INR:15.1/23.2/1.3, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:98/48, Alk Phos / T Bili:63/1.5,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:2.4 mmol/L, Albumin:2.5
   g/dL, LDH:635 IU/L, Ca++:7.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   55 M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Unclear etiology, CAP vs
   interstitial inflammatory process vs vasculitis. So far negative
   infectious work-up. Continues to have fevers and high PEEP requirement.
   S/p azithromycin (6/4
 [**7-15**]), s/p Vanc/Zosyn/Levo, s/p
   micafungin/flagyl ([**7-18**] - ), restarted on bactrim.
   - consider checking hanta viral antigen
   - Echinococcus and Entamoeba pending
   - repeat B-glucan, galactomanan pending
   - Cont Vanco/Zosyn/Levo, cont metronidazole/bactrim
   - hold hydralazine
   - continue steroids
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA, anti-gbm for vasculitis work-up
   - continue prone bed
   # Hypertension: Has hx of htn at baseline.
   - goal BP <160
   - continue metoprolol 25mg TID
   - switch versed/fentanyl to propofol, if unable increase metoprolol
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, however is third spacing.
   - [**Hospital1 **] lytes
   - Avoid nephrotoxins
   - will review and renally dose meds
   # Hypernatremia: Hypovolemia hyponatremia. Resolved.
   - monitor Na with electrolytes
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative.
   - holding bowel meds
   - flexiseal
   - send c. diff
   # Diabetes: improved blood sugars
   - on insulin gtt
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-17**] 09:53 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan with the following
   emphasis/changes:
   54 year old male who presented with fevers and cough and found to be in
   respiratory failure with severe multi-focal pneumonia. Has been on
   mechanical ventilation for over 1 week and remains febrile and with
   significant respiratory compromise.
   Overnight, (just before rounds) I noticed that patient was having air
   leak around ETT and he had extubated above cords.  Emergent
   bronchoscopy performed and tube put back in place.
   T 101.7 P 90s BP 160s/80s RR 30 Sat 94%
   Gen: Sedated on rotaprone bed
   Chest: CTA bilaterally
   Cor: S1 S2 reg
   Abd: Soft NT ND
   Ext: Trace edema bilaterally
   A:
   1) Acute Respiratory Failure:
   - Decrease Fio2 to 0.4 and re-evaluate.  Keep PEEP at current setting
   - Vanc/Zosyn/Levo
   - note, fevers have improved and we may have better source control
   potentially attributable to the additional therapies added yesterday
   -
   2) Acute Renal Failure:
   a. urine output improving as is Cr
 continue to monitor.
   3) Diarrhea:
   a. Will add Flagyl for C. diff
   4) Hypertension: on Beta-blockers
   5) Hyperglycemia: Insulin drip
   6) Anemia:
   Addendum: Fio2 decrease not tolerated and returned to .5.  Will not
   prone today but keep rotaprone bed.
   Critical Care: 75 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2129-7-20**] 12:32 AM ------

2129-07-20 07:21:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
 BRONCHOSCOPY - At [**2129-7-19**] 09:15 AM
   to reposition ETT.
 ULTRASOUND - At [**2129-7-19**] 10:25 AM
   LENIs
   - given lasix 10mg IV x 3
   - changed levo and flagyl to PO, concentrated vanco
   - when FIO2 was tried at 40%, ABG with O2 of 60, so placed back at 50%
   - Na stable at 138
   - hanta virus sent
   - BP labile, up to 200s, then improved with bolus of propofol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-19**] 09:35 AM
   Metronidazole - [**2129-7-19**] 11:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-19**] 08:00 PM
   Vancomycin - [**2129-7-19**] 08:10 PM
   Micafungin - [**2129-7-19**] 10:07 PM
   Bactrim (SMX/TMP) - [**2129-7-19**] 10:07 PM
   Infusions:
   Fentanyl (Concentrate) - 320 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-19**] 07:57 AM
   Dextrose 50% - [**2129-7-19**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-19**] 10:07 PM
   Furosemide (Lasix) - [**2129-7-20**] 02:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-20**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 92 (59 - 117) bpm
   BP: 119/67(85) {107/55(74) - 169/102(119)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  5,914 mL
                                                                    737 mL
   PO:
             TF:
                                                                    845 mL
                                                                    256 mL
   IVF:
                                                                  4,178 mL
                                                                    361 mL
   Blood products:
   Total out:
                                                                  2,980 mL
                                                                  1,240 mL
   Urine:
                                                                  2,780 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,934 mL
                                                                   -503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 35 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 93%
   ABG: 7.40/41/60/23/0
   Ve: 16.4 L/min
   PaO2 / FiO2: 120
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   218 K/uL
   9.0 g/dL
   98 mg/dL
   1.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   48 mg/dL
   102 mEq/L
   135 mEq/L
   26.2 %
   12.8 K/uL
        [image002.jpg]
                             [**2129-7-18**]  10:56 AM
                             [**2129-7-18**]  05:00 PM
                             [**2129-7-18**]  05:23 PM
                             [**2129-7-19**]  04:23 AM
                             [**2129-7-19**]  06:32 AM
                             [**2129-7-19**]  08:51 AM
                             [**2129-7-19**]  02:27 PM
                             [**2129-7-19**]  03:02 PM
                             [**2129-7-20**]  01:07 AM
                             [**2129-7-20**]  03:44 AM
   WBC
   13.2
   12.8
   Hct
   24.7
   25.4
   26.2
   Plt
   230
   218
   Cr
   1.9
   1.4
   1.4
   1.5
   TCO2
   34
   31
   29
   29
   27
   26
   Glucose
   [**Telephone/Fax (3) 6724**]8
   Other labs: PT / PTT / INR:15.1/23.2/1.3, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:85/40, Alk Phos / T Bili:56/1.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.9 %, Band:10.0 %,
   Lymph:4.1 %, Mono:3.3 %, Eos:0.5 %, Lactic Acid:3.3 mmol/L, Albumin:2.3
   g/dL, LDH:532 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
   55 M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Unclear etiology, CAP vs
   interstitial inflammatory process vs vasculitis. So far negative
   infectious work-up. Continues to have fevers and high PEEP requirement.
   S/p azithromycin (6/4
 [**7-15**]), s/p Vanc/Zosyn/Levo, s/p
   micafungin/flagyl ([**7-18**] - ), restarted on bactrim.
   - consider checking hanta viral antigen
   - Echinococcus and Entamoeba pending
   - repeat B-glucan, galactomanan pending
   - Cont Vanco/Zosyn/Levo, cont metronidazole/bactrim
   - hold hydralazine
   - continue steroids
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA, anti-gbm for vasculitis work-up
   - continue prone bed
   # Hypertension: Has hx of htn at baseline.
   - goal BP <160
   - continue metoprolol 25mg TID
   - switch versed/fentanyl to propofol, if unable increase metoprolol
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, however is third spacing.
   - [**Hospital1 **] lytes
   - Avoid nephrotoxins
   - will review and renally dose meds
   # Hypernatremia: Hypovolemia hyponatremia. Resolved.
   - monitor Na with electrolytes
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative.
   - holding bowel meds
   - flexiseal
   - send c. diff
   # Diabetes: improved blood sugars
   - on insulin gtt
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-19**] 02:10 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2129-7-8**] 03:22 PM
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL

2129-07-21 07:19:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - ET ballon burst - replaced at bedside with Anesthesia, increased peep
   to 21
   - Reached I/O goal
   - Converted to po bactrim to reduce fluids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-20**] 10:00 AM
   Bactrim (SMX/TMP) - [**2129-7-20**] 10:19 AM
   Metronidazole - [**2129-7-20**] 12:00 PM
   Vancomycin - [**2129-7-20**] 09:47 PM
   Micafungin - [**2129-7-21**] 12:06 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-21**] 04:38 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-20**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-20**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-21**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 84 (63 - 110) bpm
   BP: 95/59(71) {84/43(69) - 205/109(316)} mmHg
   RR: 30 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,168 mL
                                                                    743 mL
   PO:
             TF:
                                                                    514 mL
                                                                    255 mL
   IVF:
                                                                  2,415 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  4,575 mL
                                                                    530 mL
   Urine:
                                                                  4,575 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,407 mL
                                                                    213 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 21 cmH2O
   FiO2: 50%
   PIP: 41 cmH2O
   Plateau: 33 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.44/39/73.[**Numeric Identifier **]/22/1
   Ve: 14.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   256 K/uL
   10.2 g/dL
   104 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   52 mg/dL
   104 mEq/L
   139 mEq/L
   29.0 %
   16.1 K/uL
        [image002.jpg]
                             [**2129-7-19**]  08:51 AM
                             [**2129-7-19**]  02:27 PM
                             [**2129-7-19**]  03:02 PM
                             [**2129-7-20**]  01:07 AM
                             [**2129-7-20**]  03:44 AM
                             [**2129-7-20**]  03:05 PM
                             [**2129-7-20**]  10:48 PM
                             [**2129-7-21**]  03:15 AM
                             [**2129-7-21**]  04:16 AM
                             [**2129-7-21**]  04:39 AM
   WBC
   12.8
   16.1
   Hct
   26.2
   29.0
   Plt
   218
   256
   Cr
   1.4
   1.5
   1.7
   TCO2
   29
   27
   26
   24
   28
   27
   27
   Glucose
   163
   98
   81
   104
   Other labs: PT / PTT / INR:13.5/26.5/1.2, CK / CKMB /
   Troponin-T:889/4/0.02, ALT / AST:93/47, Alk Phos / T Bili:65/1.5,
   Amylase / Lipase:74/31, Differential-Neuts:87.5 %, Band:10.0 %,
   Lymph:7.2 %, Mono:4.4 %, Eos:0.8 %, Lactic Acid:3.3 mmol/L, Albumin:2.3
   g/dL, LDH:548 IU/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Unclear etiology, multifocal
   infection (CAP vs other) vs interstitial inflammatory process vs
   vasculitis. So far negative infectious work-up.
   S/p ceftriaxone (6/4
 [**7-9**]), s/p vancomycin (6/4
 [**7-9**]), s/p linezolid
   (6/6
 [**7-13**]), s/p azithromycin (6/4
 [**7-15**]), s/p bactrim (6/5
 [**7-13**]),
   s/p metronidazole (6/15
 [**7-21**]), s/p caspofungin ([**7-16**]).
   - continue vancomycin ([**7-13**] - )
   - continue zosyn ([**7-9**] - )
   - continue levofloxacin ([**7-15**] - )
   - continue bactrim ([**7-18**] - )
   - continue micafungin ([**7-18**] - )
   - start doxycyline ([**7-21**] - )
   - diuresis PRN for goal of euvolemia/net negative
   - decrease methylprednisolone to 30 IV BID (steroids since [**7-15**] - )
   - hanta virus ag pending
   - Echinococcus and Entamoeba pending
   - repeat B-glucan, galactomanan pending
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], ANCA, anti-gbm for vasculitis work-up
   - continue mechanical ventilation
 AC, reduce PEEP from 21 to 19
   - fentanyl/propofol for sedation
   - continue prone bed
   # Hypertension: Has hx of htn at baseline.
   - holding metoprolol
   - goal BP <160
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, likely third-spacing, but intravascularly
   depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   # Hyponatremia: Unclear etiology, [**3-7**] SIADH from pulmonary processes.
   Resolving.
   - monitor Na with electrolytes
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative x3. Off metronidazole.
   - holding bowel meds
   - flexiseal
   # Diabetes: improved blood sugars
   - on insulin gtt
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-19**] 02:10 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   ------ Protected Section ------
   I have seen and examined the patient with the resident and agree
   substantially with the assessment and plan with the following
   emphasis/changes:
   54 year old male who presented with fevers and cough and found to be in
   respiratory failure with severe multi-focal pneumonia. Has been on
   mechanical ventilation for over 1.5 weeks and is now slowly starting to
   show signs of improvement.  He remains on broad-spectrum antibiotics
   and no clear etiology as of yet.
   Overnight, had tube balloon rupture and tube exchanged.
   T 101.7 P 90s BP 160s/80s RR 30 Sat 98%
   Gen: Sedated, intubated
   Chest: CTA bilaterally
   Cor: S1 S2 reg
   Abd: Soft NT ND
   Ext: 1+ edema bilaterally
   CXR: bilateral infiltrates slightly improved; ETT in place, line in
   good position
   A:
   1) Acute Respiratory Failure:
   - Decrease PEEP to 19;
   - Fio2: 0.5
   - Continue diuresis
   - Begin to wean steroids 30 mg [**Hospital1 **]
   - Discontinue Flagyl; Begin doxycycline
   2) Acute Renal Failure:
   a. Urine output continues to be adequate although his creatinine
   remains elevated
 stable
   b. Will continue to monitor his urine output
   3) Diarrhea: - resolved and ruled out for C. Diff
   a. D/C flagyl
   4) Hypertension: on Beta-blockers
   5) Hyperglycemia: Insulin drip
   6) Anemia:
   Addendum: Changed to PC ventilation and patient had marked improvement
   in both ventilation and oxygenation.  Will continue this modality for
   now.
   Critical Care: 75 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2129-7-21**] 10:40 PM ------

2129-07-22 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2129-7-21**] 07:12 PM
   - labile bp
   - switched AC to PS, PEEP 21 --> 19 --> 18
   - transitioned from propofol to midazolam gtt
   - continued fentanyl gtt
   - diuresis w lasix 10mg x2 - goal(-1-2L) not achieved, limited by bp
   - started doxycycline
   - increased bactrim 2 tab DS q6h
   - discontinued metronidazole
   - decreased methylprednisolone 60 --> 30mg [**Hospital1 **]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-21**] 09:51 AM
   Metronidazole - [**2129-7-21**] 11:46 AM
   Bactrim (SMX/TMP) - [**2129-7-21**] 03:29 PM
   Vancomycin - [**2129-7-21**] 08:28 PM
   Doxycycline - [**2129-7-21**] 11:05 PM
   Micafungin - [**2129-7-21**] 11:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-22**] 04:43 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-21**] 07:59 AM
   Fentanyl - [**2129-7-21**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-21**] 02:05 PM
   Furosemide (Lasix) - [**2129-7-21**] 05:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-22**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 104 (70 - 131) bpm
   BP: 108/59(75) {91/48(62) - 161/95(116)} mmHg
   RR: 19 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,923 mL
                                                                    525 mL
   PO:
             TF:
                                                                    841 mL
                                                                    253 mL
   IVF:
                                                                  1,882 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,970 mL
                                                                    875 mL
   Urine:
                                                                  2,970 mL
                                                                    875 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -47 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/SIMV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (0 - 930) mL
   PC : 10 cmH2O
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 18 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.39/42/75/23/0
   Ve: 13 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   273 K/uL
   10.1 g/dL
   116 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   46 mg/dL
   106 mEq/L
   140 mEq/L
   30.0 %
   16.0 K/uL
        [image002.jpg]
                             [**2129-7-21**]  04:39 AM
                             [**2129-7-21**]  09:00 AM
                             [**2129-7-21**]  12:53 PM
                             [**2129-7-21**]  04:07 PM
                             [**2129-7-21**]  04:50 PM
                             [**2129-7-21**]  05:40 PM
                             [**2129-7-21**]  07:00 PM
                             [**2129-7-21**]  09:35 PM
                             [**2129-7-22**]  04:07 AM
                             [**2129-7-22**]  04:44 AM
   WBC
   16.0
   Hct
   30.0
   Plt
   273
   Cr
   1.4
   TropT
   0.03
   TCO2
   27
   26
   25
   24
   25
   25
   26
   26
   Glucose
   115
   116
   Other labs: PT / PTT / INR:13.1/22.9/1.1, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:98/55, Alk Phos / T Bili:75/1.3,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:2.0 mmol/L, Albumin:2.3
   g/dL, LDH:613 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Unclear etiology, multifocal
   infection (CAP vs other) vs interstitial inflammatory process vs
   vasculitis. So far negative infectious work-up.  S/p ceftriaxone (6/4
   [**7-9**]), s/p vancomycin (6/4
 [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p
   azithromycin (6/4
 [**7-15**]), s/p bactrim (6/5
 [**7-13**]), s/p metronidazole
   (6/15
 [**7-21**]), s/p caspofungin ([**7-16**]).
   - continue vancomycin ([**7-13**] - )
   - continue zosyn ([**7-9**] - )
   - continue levofloxacin ([**7-15**] - )
   - continue bactrim ([**7-18**] - )
   - continue micafungin ([**7-18**] - )
   - continue doxycyline ([**7-21**] - )
   - diuresis PRN for goal of euvolemia/net negative
   - continue methylprednisolone to 30 IV BID (steroids since [**7-15**] - )
   - hanta virus ag pending
   - Echinococcus and Entamoeba pending
   - repeat B-glucan, galactomanan were canceled, first set negative
   - [**Doctor First Name **], ANCA negative
   - anti-gbm for vasculitis pending
   - continue mechanical ventilation
 AC, reduce PEEP from 21 to 19
   - fentanyl/propofol for sedation
   - continue prone bed
   # Hypertension: Has hx of htn at baseline.
   - holding metoprolol
   - goal BP <160
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, likely third-spacing, but intravascularly
   depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   # Hyponatremia: Unclear etiology, [**3-7**] SIADH from pulmonary processes.
   Resolving.
   - monitor Na with electrolytes
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative x3. Off metronidazole.
   - holding bowel meds
   - flexiseal
   # Diabetes: improved blood sugars
   - on insulin gtt
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause. Hemolysis labs negative.
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-21**] 12:42 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: famotidine
   VAP:  chlorhexidine, oral care
   Comments:
   Communication:  Comments: Wife
   [**Name (NI) 129**] status: Full
   Disposition: ICU care

2129-07-23 07:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2129-7-22**] 05:15 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-7-21**] 11:46 AM
   Levofloxacin - [**2129-7-22**] 10:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-22**] 08:21 PM
   Doxycycline - [**2129-7-22**] 09:07 PM
   Vancomycin - [**2129-7-22**] 10:05 PM
   Micafungin - [**2129-7-23**] 12:17 AM
   Bactrim (SMX/TMP) - [**2129-7-23**] 06:21 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2129-7-22**] 12:15 PM
   Propofol - [**2129-7-22**] 06:06 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-22**] 08:18 PM
   Famotidine (Pepcid) - [**2129-7-22**] 08:18 PM
   Fentanyl - [**2129-7-22**] 09:01 PM
   Midazolam (Versed) - [**2129-7-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 76 (76 - 146) bpm
   BP: 94/47(62) {90/45(59) - 176/87(116)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,545 mL
                                                                    832 mL
   PO:
             TF:
                                                                    840 mL
                                                                    276 mL
   IVF:
                                                                  1,365 mL
                                                                    436 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    840 mL
   Urine:
                                                                  3,035 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                     -8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.38/42/151/23/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 302
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   251 K/uL
   119 mg/dL
   1.2 mg/dL
   23 mEq/L
   5.0 mEq/L
   40 mg/dL
   107 mEq/L
   140 mEq/L
   23.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2129-7-22**]  04:07 AM
                             [**2129-7-22**]  04:44 AM
                             [**2129-7-22**]  07:46 AM
                             [**2129-7-22**]  08:53 AM
                             [**2129-7-22**]  12:30 PM
                             [**2129-7-22**]  03:49 PM
                             [**2129-7-22**]  05:11 PM
                             [**2129-7-22**]  06:39 PM
                             [**2129-7-23**]  01:20 AM
                             [**2129-7-23**]  04:30 AM
   WBC
   16.0
   11.5
   Hct
   30.0
   23.7
   Plt
   273
   251
   Cr
   1.4
   1.2
   TCO2
   26
   29
   26
   25
   24
   26
   24
   26
   Glucose
   115
   116
   119
   Other labs: PT / PTT / INR:13.1/22.9/1.1, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:87/50, Alk Phos / T Bili:59/0.7,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.3
   g/dL, LDH:527 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-23**] 01:46 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2129-07-23 07:59:00 Physician Resident Progress Note
MICU Intern Progress Note:
   24 Hour Events:
   - weaning down PEEP, at midnight was at 12
   - xray with pneumomediastinum, thoracics evaluated pt, for now will
   hold off on CT since stable
   - Bronch by IP without tracheal injury, BAL collected, no DAH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-7-21**] 11:46 AM
   Levofloxacin - [**2129-7-22**] 10:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-22**] 08:21 PM
   Doxycycline - [**2129-7-22**] 09:07 PM
   Vancomycin - [**2129-7-22**] 10:05 PM
   Micafungin - [**2129-7-23**] 12:17 AM
   Bactrim (SMX/TMP) - [**2129-7-23**] 06:21 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2129-7-22**] 12:15 PM
   Propofol - [**2129-7-22**] 06:06 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-22**] 08:18 PM
   Famotidine (Pepcid) - [**2129-7-22**] 08:18 PM
   Fentanyl - [**2129-7-22**] 09:01 PM
   Midazolam (Versed) - [**2129-7-23**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-23**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.7
C (98.1
   HR: 76 (76 - 146) bpm
   BP: 94/47(62) {90/45(59) - 176/87(116)} mmHg
   RR: 16 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,545 mL
                                                                    837 mL
   PO:
             TF:
                                                                    840 mL
                                                                    279 mL
   IVF:
                                                                  1,365 mL
                                                                    439 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    840 mL
   Urine:
                                                                  3,035 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.38/42/151/23/0
   Ve: 9.7 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: NAD, sedated, intubated
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: (Breath Sounds: Bronchial: occasional bronchial
   sounds on left, anterior crackles on left
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Labs / Radiology
   251 K/uL
   8.1 g/dL
   119 mg/dL
   1.2 mg/dL
   23 mEq/L
   5.0 mEq/L
   40 mg/dL
   107 mEq/L
   140 mEq/L
   23.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2129-7-22**]  04:07 AM
                             [**2129-7-22**]  04:44 AM
                             [**2129-7-22**]  07:46 AM
                             [**2129-7-22**]  08:53 AM
                             [**2129-7-22**]  12:30 PM
                             [**2129-7-22**]  03:49 PM
                             [**2129-7-22**]  05:11 PM
                             [**2129-7-22**]  06:39 PM
                             [**2129-7-23**]  01:20 AM
                             [**2129-7-23**]  04:30 AM
   WBC
   16.0
   11.5
   Hct
   30.0
   23.7
   Plt
   273
   251
   Cr
   1.4
   1.2
   TCO2
   26
   29
   26
   25
   24
   26
   24
   26
   Glucose
   115
   116
   119
   Other labs: PT / PTT / INR:13.1/22.9/1.1, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:87/50, Alk Phos / T Bili:59/0.7,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.3
   g/dL, LDH:527 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Unclear etiology, multifocal
   infection (CAP vs other) vs interstitial inflammatory process. Not
   likely to be vasculitis, as ANCA/[**Doctor First Name **] negative. So far negative
   infectious work-up.  S/p ceftriaxone (6/4
 [**7-9**]), s/p vancomycin (6/4
   [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p azithromycin (6/4
 [**7-15**]), s/p
   bactrim (6/5
 [**7-13**]), s/p metronidazole (6/15
 [**7-21**]), s/p caspofungin
   ([**7-16**]).
   - continue vancomycin ([**7-13**] - )
   - continue zosyn ([**7-9**] - )
   - continue levofloxacin ([**7-15**] - )
   - continue bactrim ([**7-18**] - ), consider stopping
   - continue micafungin ([**7-18**] - )
   - continue doxycyline ([**7-21**] - ), consider stopping, will discuss with
   ID
   - diuresis PRN for goal of euvolemia/net negative
   - continue methylprednisolone, but reduce to 30 daily (steroids since
   [**7-15**] - )
   - hanta virus ag pending
   - Echinococcus and Entamoeba pending
   - repeat B-glucan, galactomanan were canceled, first set negative
   - anti-gbm negative
   - continue mechanical ventilation
 AC, continue reducing PEEP, down to
   10 today
   - fentanyl/propofol/versed for sedation
   # Hypertension: Has hx of htn at baseline.
   - holding metoprolol
   - goal BP <160
   - hydralazine PRN
   # ARF: Continues to have renal failure with adequate UOP. FeNa
   consistent with pre-renal, likely third-spacing, but intravascularly
   depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   - will consider d/c of bactrim
   # Constipation/Diarrhea: Now with diarrhea, may be from contrast and PO
   bowel meds.  C. Diff negative x3. Off metronidazole.
   - holding bowel meds
   - flexiseal
   # Diabetes: improved blood sugars
   - on insulin gtt
   - consider switching to glargine/HISS
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause of drop this AM,
   - recheck and transfuse if still low
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-23**] 01:46 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 129**] status: full
   Disposition: ICU for now

2129-07-24 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2129-7-21**] 11:46 AM
   Micafungin - [**2129-7-23**] 12:17 AM
   Levofloxacin - [**2129-7-23**] 10:38 AM
   Bactrim (SMX/TMP) - [**2129-7-23**] 12:10 PM
   Vancomycin - [**2129-7-23**] 08:38 PM
   Doxycycline - [**2129-7-23**] 10:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-24**] 04:23 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2129-7-23**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2129-7-23**] 08:24 PM
   Famotidine (Pepcid) - [**2129-7-23**] 08:24 PM
   Propofol - [**2129-7-24**] 05:45 AM
   Midazolam (Versed) - [**2129-7-24**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-24**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 111 (75 - 111) bpm
   BP: 142/67(92) {88/39(55) - 153/69(99)} mmHg
   RR: 22 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  3,184 mL
                                                                    657 mL
   PO:
             TF:
                                                                    841 mL
                                                                    287 mL
   IVF:
                                                                  1,863 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  3,175 mL
                                                                    960 mL
   Urine:
                                                                  3,175 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      9 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 15 cmH2O
   Compliance: 90 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/41/117/23/1
   Ve: 8.7 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   278 K/uL
   91 mg/dL
   1.1 mg/dL
   23 mEq/L
   4.6 mEq/L
   36 mg/dL
   106 mEq/L
   137 mEq/L
   24.9 %
   11.3 K/uL
        [image002.jpg]
                             [**2129-7-22**]  06:39 PM
                             [**2129-7-23**]  01:20 AM
                             [**2129-7-23**]  04:30 AM
                             [**2129-7-23**]  08:20 AM
                             [**2129-7-23**]  10:29 AM
                             [**2129-7-23**]  12:00 PM
                             [**2129-7-23**]  06:48 PM
                             [**2129-7-23**]  09:53 PM
                             [**2129-7-24**]  04:08 AM
                             [**2129-7-24**]  04:42 AM
   WBC
   11.5
   12.7
   12.8
   11.3
   Hct
   23.7
   23.6
   25.2
   24.9
   Plt
   [**Telephone/Fax (3) 6813**]78
   Cr
   1.2
   1.1
   TCO2
   24
   26
   26
   26
   26
   27
   Glucose
   119
   91
   Other labs: PT / PTT / INR:13.1/31.2/1.1, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:111/75, Alk Phos / T Bili:65/0.7,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:2.3
   g/dL, LDH:478 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-23**] 01:46 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2129-07-25 07:29:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   24 Hour Events:
   - Decreased FiO2 40%, PEEP 8
   - ID recs: d/c levaquin
   - Tapering steroids
   - weaning sedation
   - started metoprolol [**Hospital1 **] for HTN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2129-7-23**] 12:17 AM
   Bactrim (SMX/TMP) - [**2129-7-23**] 12:10 PM
   Levofloxacin - [**2129-7-24**] 09:52 AM
   Vancomycin - [**2129-7-24**] 10:00 PM
   Doxycycline - [**2129-7-24**] 11:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-25**] 05:20 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2129-7-24**] 08:51 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-24**] 08:14 PM
   Famotidine (Pepcid) - [**2129-7-24**] 08:14 PM
   Fentanyl - [**2129-7-24**] 10:43 PM
   Propofol - [**2129-7-25**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-25**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 89 (68 - 103) bpm
   BP: 124/58(80) {93/46(61) - 190/91(118)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.8 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,783 mL
                                                                    618 mL
   PO:
             TF:
                                                                    840 mL
                                                                    261 mL
   IVF:
                                                                  1,633 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                  1,660 mL
   Urine:
                                                                  4,330 mL
                                                                  1,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,547 mL
                                                                 -1,042 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 27 cmH2O
   Plateau: 15 cmH2O
   Compliance: 64.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/34/89.[**Numeric Identifier 433**]/24/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: NAD, intubated, opens eyes, follows no commands
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Respiratory / Chest: bronchial breath sounds
   Abdominal: Soft, Non-tender, mod distention, decreased BS
   Extremities: edema
   Skin:  Warm
   Labs / Radiology
   331 K/uL
   9.1 g/dL
   95 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   136 mEq/L
   26.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2129-7-23**]  12:00 PM
                             [**2129-7-23**]  06:48 PM
                             [**2129-7-23**]  09:53 PM
                             [**2129-7-24**]  04:08 AM
                             [**2129-7-24**]  04:42 AM
                             [**2129-7-24**]  10:14 AM
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
   WBC
   12.8
   11.3
   10.9
   Hct
   25.2
   24.9
   26.6
   Plt
   259
   278
   331
   Cr
   1.1
   1.0
   TCO2
   26
   26
   27
   25
   26
   28
   24
   Glucose
   91
   95
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:105/53, Alk Phos / T Bili:77/0.7,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.8
   g/dL, LDH:493 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Sputum with GNRs [**7-22**]
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
   55M w HTN, who originally presented to OSH w fever/SOB, and was
   subsequently transferred to [**Hospital1 1**] in hypoxic respiratory failure in the
   setting of multi-focal PNA.
   # Acute Hypoxic Respiratory Failure: Respiratory status continues to
   improve, currently PEEP 5. Etiology of multifocal infection (CAP vs
   other) vs interstitial inflammatory process still remains unclear. Not
   likely to be vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative
   infectious work-up.  S/p ceftriaxone (6/4
 [**7-9**]), s/p vancomycin (6/4
   [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p azithromycin (6/4
 [**7-15**]), s/p
   bactrim (6/5
 [**7-13**]), s/p metronidazole (6/15
 [**7-21**]), s/p caspofungin
   ([**7-16**]), off bactrim, off levo ([**Date range (1) 6828**]), mcafungin ([**Date range (1) 6829**]),
   levofloxacin ([**Date range (1) 6830**]), s/p micafungin. Pneumomedistinal seen on exam
   and CXR felt to be secondary to high PEEP, thoracics evaluated with
   bronch found no air leak in trachea. Stable on CXR and exam.
   - discontinue vancomycin (6/10
 [**7-25**])
   - continue zosyn ([**7-9**] - )
   - continue doxycyline ([**7-21**] - )
   - diuresis PRN for goal of euvolemia/net negative
   - current methylprednisolone at 30 daily, reduce today to 15 daily with
   slow taper (steroids since [**7-15**] - )
   - hanta virus ag pending
   - Echinococcus, Entamoeba, LCM pending
   - continue mechanical ventilation
 AC, continue reducing PEEP, down to
   5 today
   - fentanyl/propofol/versed for sedation, wean propofol, goal to wake up
   - try PSV
   # Hypertension: Has hx of htn at baseline.
   - re-started metoprolol 25 [**Hospital1 **]
   - hydralazine PRN
   - goal BP <160
   # ARF: Continues to improve with adequate UOP. FeNa consistent with
   pre-renal, likely third-spacing, but intravascularly depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   # Constipation/Diarrhea: C. Diff negative x3. Off metronidazole.
   - flexiseal
   - bowel regimen
   # Diabetes: improved blood sugars
   - on glargine/HISS
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause of drop this AM,
   - recheck and transfuse if still low
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-24**] 03:23 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer:  Famotidine
   Code status: Full code
   Disposition: ICU care, goal wean off sedation

2129-07-25 12:04:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating tapering of PEEP.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2129-7-23**] 12:17 AM
   Bactrim (SMX/TMP) - [**2129-7-23**] 12:10 PM
   Levofloxacin - [**2129-7-24**] 09:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-25**] 05:20 AM
   Vancomycin - [**2129-7-25**] 07:43 AM
   Doxycycline - [**2129-7-25**] 08:45 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2129-7-24**] 10:43 PM
   Propofol - [**2129-7-25**] 12:05 AM
   Famotidine (Pepcid) - [**2129-7-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-7-25**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (98.9
   HR: 81 (68 - 97) bpm
   BP: 141/92(112) {93/46(61) - 190/93(120)} mmHg
   RR: 22 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.6 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,783 mL
                                                                  1,288 mL
   PO:
             TF:
                                                                    840 mL
                                                                    413 mL
   IVF:
                                                                  1,633 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                  4,330 mL
                                                                  2,960 mL
   Urine:
                                                                  4,330 mL
                                                                  2,960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,547 mL
                                                                 -1,672 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/34/89.[**Numeric Identifier 433**]/24/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   331 K/uL
   95 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.5 mEq/L
   31 mg/dL
   103 mEq/L
   136 mEq/L
   26.6 %
   10.9 K/uL
        [image002.jpg]
                             [**2129-7-23**]  12:00 PM
                             [**2129-7-23**]  06:48 PM
                             [**2129-7-23**]  09:53 PM
                             [**2129-7-24**]  04:08 AM
                             [**2129-7-24**]  04:42 AM
                             [**2129-7-24**]  10:14 AM
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
   WBC
   12.8
   11.3
   10.9
   Hct
   25.2
   24.9
   26.6
   Plt
   259
   278
   331
   Cr
   1.1
   1.0
   TCO2
   26
   26
   27
   25
   26
   28
   24
   Glucose
   91
   95
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:105/53, Alk Phos / T Bili:77/0.7,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.8
   g/dL, LDH:493 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAIULRE -- attributed to infection, ARDS.  Continues to
   demonstrate gradual clinical improvement.  Continue mechanical
   ventilation, work towards SBT.  Wean sedation.
   PNEUMONIA -- Suspect viral etiology.  Tapering antimicrobials
   empirically to Zosyn and Doxicycline.  Continue steroid taper.
   PNEUMONMEDIASTINUM -- stable, follow with daily CXRs
   RENAL FAILURE, ACUTE -- improving.  MOnitor UO, BUN, creatinine.
   ANEMIA
 stable.  Monitor Hct.
   HTN
 restart lopressor
   DM
 SSI
   FLUIDS -- desire net negative fluid balance.
   MOTOR WEAKNESS -- suspect related to sedation.  At risk for criticial
   care myopathy.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-24**] 03:23 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2129-07-26 07:00:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   - PEEP weaned to 5
   - weaned sedation
   - autodiuresis
   - stopped vancomycin per ID, consider stopping zosyn on [**7-26**]
   - failed PS trial, caused hypertension, and placed back on AC
   - decreased steriods to 15mg per day
   - increased dose of beta blocker
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-7-23**] 12:10 PM
   Levofloxacin - [**2129-7-24**] 09:52 AM
   Vancomycin - [**2129-7-25**] 07:43 AM
   Doxycycline - [**2129-7-25**] 09:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 04:36 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-25**] 10:27 PM
   Hydralazine - [**2129-7-26**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 100 (81 - 114) bpm
   BP: 118/74(88) {118/58(80) - 184/121(131)} mmHg
   RR: 19 (19 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,199 mL
                                                                    400 mL
   PO:
             TF:
                                                                    841 mL
                                                                    244 mL
   IVF:
                                                                  1,088 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  5,825 mL
                                                                  1,525 mL
   Urine:
                                                                  5,825 mL
                                                                    925 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                 -3,626 mL
                                                                 -1,125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: 7.47/41/95.[**Numeric Identifier **]/27/5
   Ve: 10.2 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General: No acute distress, intubated, responds to simple commands,
   alert, eyes open
   HEENT: moist mucous membranes, ETT secure, Left IJ catheter noted, site
   looks clean and no signs of infection.
   Lungs: Clear to auscultation bilaterally with occasional crackles heard
   CV: regular rate and rhythm, no murmurs, gallops or rubs.
   Abd: soft, non-tender, non-distended, +bs
   Skin: no rashes noted
   Extremities: warm to touch, no cyanosis, pulses palpable and equal in
   lower extremities. Left arterial line noted with no signs of infection.
   Neuro: Patiient alert.  Able to move all 4 extremities, tone normal.
   Labs / Radiology
   372 K/uL
   10.5 g/dL
   121 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   139 mEq/L
   30.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2129-7-24**]  04:08 AM
                             [**2129-7-24**]  04:42 AM
                             [**2129-7-24**]  10:14 AM
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
                             [**2129-7-25**]  06:33 PM
                             [**2129-7-26**]  04:17 AM
                             [**2129-7-26**]  04:47 AM
   WBC
   11.3
   10.9
   12.9
   Hct
   24.9
   26.6
   30.5
   Plt
   [**Telephone/Fax (3) 6848**]
   Cr
   1.1
   1.0
   1.0
   0.9
   TCO2
   27
   25
   26
   28
   24
   31
   Glucose
   91
   95
   99
   121
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:98/41, Alk Phos / T Bili:97/0.8,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.8
   g/dL, LDH:532 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Radiology:  Minimal interval improvement, left lower lung field with
   infiltrate. ETT well placed.  Left IJ central venous catheter and NG
   tube noted.
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Acute Hypoxic Respiratory Failure: Respiratory status continues to
   improve, currently PEEP 5. Etiology of multifocal infection (CAP vs
   other) vs interstitial inflammatory process still remains unclear. Not
   likely to be vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative
   infectious work-up.  S/p ceftriaxone (6/4
 [**7-9**]), s/p vancomycin (6/4
   [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p azithromycin (6/4
 [**7-15**]), s/p
   bactrim (6/5
 [**7-13**]), s/p metronidazole (6/15
 [**7-21**]), s/p caspofungin
   ([**7-16**]), off bactrim, off levo ([**Date range (1) 6828**]), mcafungin ([**Date range (1) 6829**]),
   levofloxacin ([**Date range (1) 6830**]), s/p micafungin. Pneumomedistinal seen on exam
   and CXR felt to be secondary to high PEEP, thoracics evaluated with
   bronch found no air leak in trachea. Stable on CXR and exam.
   - discontinue vancomycin (6/10
 [**7-25**])
   - discontinue zosyn (6/6
 [**7-26**]/)
   - continue doxycyline for total 14 days ([**7-21**] - )
   - diuresis PRN for goal of net negative 2L
   - current methylprednisolone at 15 daily, continue  with slow taper
   every other day ([**7-15**] - )
   - hanta virus ag pending
   - Echinococcus, Entamoeba, LCM pending
   - Vent changed to PS today, [**6-7**], tolerating well, continue vent ween
   - fentanyl/propofol/versed for sedation, continue to wean sedation, pt
   alert
   - consider zyprexa for agitation
   # Hypertension: Has hx of htn at baseline.
   - Increase metoprolol 25 TID
   - hydralazine PRN
   - goal BP <160
   # ARF: Continues to improve with adequate UOP. FeNa consistent with
   pre-renal, likely third-spacing, but intravascularly depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   # Constipation/Diarrhea: C. Diff negative x3. Off metronidazole.
   - flexiseal
   - bowel regimen
   # Diabetes: improved blood sugars
   - on glargine/HISS
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause of drop this AM,
   - recheck and transfuse if still low
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Discuss with Nutrition, currently on Nutren Renal (Full) - [**2129-7-26**]
   05:02 AM 35 mL/hour not needed.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Improving, still need vent support.

2129-07-26 11:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake, more interactive this AM.
   Tolerating SBT this AM.
   Continues to exhibit generalized muscular weakness.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2129-7-23**] 12:10 PM
   Levofloxacin - [**2129-7-24**] 09:52 AM
   Vancomycin - [**2129-7-25**] 07:43 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 04:36 AM
   Doxycycline - [**2129-7-26**] 08:03 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-25**] 10:27 PM
   Hydralazine - [**2129-7-26**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-7-26**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 88 (81 - 114) bpm
   BP: 175/92(263) {118/68(88) - 184/121(263)} mmHg
   RR: 19 (19 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.6 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,199 mL
                                                                    733 mL
   PO:
             TF:
                                                                    841 mL
                                                                    385 mL
   IVF:
                                                                  1,088 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  5,825 mL
                                                                  2,005 mL
   Urine:
                                                                  5,825 mL
                                                                  1,405 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                 -3,626 mL
                                                                 -1,272 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.47/41/95.[**Numeric Identifier **]/27/5
   Ve: 10.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed, Nods appropriately
   Labs / Radiology
   10.5 g/dL
   372 K/uL
   121 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.1 mEq/L
   25 mg/dL
   101 mEq/L
   139 mEq/L
   30.5 %
   12.9 K/uL
        [image002.jpg]
                             [**2129-7-24**]  04:08 AM
                             [**2129-7-24**]  04:42 AM
                             [**2129-7-24**]  10:14 AM
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
                             [**2129-7-25**]  06:33 PM
                             [**2129-7-26**]  04:17 AM
                             [**2129-7-26**]  04:47 AM
   WBC
   11.3
   10.9
   12.9
   Hct
   24.9
   26.6
   30.5
   Plt
   [**Telephone/Fax (3) 6848**]
   Cr
   1.1
   1.0
   1.0
   0.9
   TCO2
   27
   25
   26
   28
   24
   31
   Glucose
   91
   95
   99
   121
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:98/41, Alk Phos / T Bili:97/0.8,
   Amylase / Lipase:74/31, Differential-Neuts:91.6 %, Band:10.0 %,
   Lymph:3.9 %, Mono:4.1 %, Eos:0.2 %, Lactic Acid:1.0 mmol/L, Albumin:2.8
   g/dL, LDH:532 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAILURE -- attributed to infection, ARDS.  Continues to
   demonstrate gradual clinical improvement.  Continue mechanical
   ventilation, work towards SBT.  Wean sedation.  Hope to allow
   extubation trial if possible.  [**Month (only) 11**] ultimately require tracheotomy tube
   in order to allow continued rehabilitation.
   PNEUMONIA -- Suspect viral etiology.  Tapering antimicrobials
   empirically to Zosyn and Doxicycline.  Continue slow steroid taper.
   PNEUMONMEDIASTINUM -- stable, follow with daily CXRs.
   RENAL FAILURE, ACUTE -- improving.  Monitor UO, BUN, creatinine.
   ANEMIA
 stable.  Monitor Hct.
   HTN
 restart lopressor
   DM
 SSI, maintain  glucose <150.
   FLUIDS -- desire net negative fluid balance.
   MOTOR WEAKNESS -- suspect related to sedation.  At risk for criticial
   care myopathy.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2129-7-26**] 05:02 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-07-27 06:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt did well on pressure support [**6-7**] pressure support trial
   -diuresing without need for add'l lasix
   -zosyn dc'd, 14 d course doxy started per ID recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2129-7-24**] 09:52 AM
   Vancomycin - [**2129-7-25**] 07:43 AM
   Doxycycline - [**2129-7-26**] 09:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 09:05 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-26**] 02:38 PM
   Hydralazine - [**2129-7-27**] 03:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-27**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 117 (73 - 117) bpm
   BP: 173/90(114) {106/63(84) - 210/143(263)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.6 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,856 mL
                                                                    384 mL
   PO:
             TF:
                                                                  1,043 mL
                                                                    335 mL
   IVF:
                                                                    693 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    700 mL
   Urine:
                                                                  3,240 mL
                                                                    700 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,984 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 571 (0 - 571) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.49/37/80.[**Numeric Identifier 500**]/26/4
   Ve: 12.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   390 K/uL
   10.7 g/dL
   146 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.6 mEq/L
   27 mg/dL
   99 mEq/L
   135 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
                             [**2129-7-25**]  06:33 PM
                             [**2129-7-26**]  04:17 AM
                             [**2129-7-26**]  04:47 AM
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
   WBC
   10.9
   12.9
   14.2
   Hct
   26.6
   30.5
   30.8
   Plt
   [**Telephone/Fax (3) 6872**]
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   26
   28
   24
   31
   30
   29
   Glucose
   95
   99
   121
   146
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:80/51, Alk Phos / T Bili:104/0.8,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Acute Hypoxic Respiratory Failure: Respiratory status continues to
   improve, currently PEEP 5. Etiology of multifocal infection (CAP vs
   other) vs interstitial inflammatory process still remains unclear. Not
   likely to be vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative
   infectious work-up.  S/p ceftriaxone (6/4
 [**7-9**]), s/p vancomycin (6/4
   [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p azithromycin (6/4
 [**7-15**]), s/p
   bactrim (6/5
 [**7-13**]), s/p metronidazole (6/15
 [**7-21**]), s/p caspofungin
   ([**7-16**]), off bactrim, off levo ([**Date range (1) 6828**]), mcafungin ([**Date range (1) 6829**]),
   levofloxacin ([**Date range (1) 6830**]), s/p micafungin. Pneumomedistinal seen on exam
   and CXR felt to be secondary to high PEEP, thoracics evaluated with
   bronch found no air leak in trachea. Stable on CXR and exam.
   - discontinue vancomycin (6/10
 [**7-25**])
   - discontinue zosyn (6/6
 [**7-26**]/)
   - continue doxycyline for total 14 days ([**7-21**] - )
   - diuresis PRN for goal of net negative 2L
   - current methylprednisolone at 15 daily, continue  with slow taper
   every other day ([**7-15**] - )
   - hanta virus ag pending
   - Echinococcus, Entamoeba, LCM pending
   - Vent changed to PS today, [**6-7**], tolerating well, continue vent ween
   - fentanyl/propofol/versed for sedation, continue to wean sedation, pt
   alert
   - consider zyprexa for agitation
   # Hypertension: Has hx of htn at baseline.
   - Increase metoprolol 25 TID
   - hydralazine PRN
   - goal BP <160
   # ARF: Continues to improve with adequate UOP. FeNa consistent with
   pre-renal, likely third-spacing, but intravascularly depleted.
   - monitor daily lytes
   - avoid nephrotoxins
   - renally dose meds
   # Constipation/Diarrhea: C. Diff negative x3. Off metronidazole.
   - flexiseal
   - bowel regimen
   # Diabetes: improved blood sugars
   - on glargine/HISS
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear cause of drop this AM,
   - recheck and transfuse if still low
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-26**] 11:03 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-07-27 11:01:00 Physician Attending Progress Note
Chief Complaint: Respriatory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerated IPS trial last PM.
   Continues spontaneous diuresis.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-7-25**] 07:43 AM
   Doxycycline - [**2129-7-26**] 09:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 09:05 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Hydralazine - [**2129-7-27**] 03:35 AM
   Famotidine (Pepcid) - [**2129-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-7-27**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 95 (73 - 126) bpm
   BP: 111/104(109) {106/63(84) - 210/143(230)} mmHg
   RR: 22 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,856 mL
                                                                    582 mL
   PO:
             TF:
                                                                  1,043 mL
                                                                    448 mL
   IVF:
                                                                    693 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                  1,290 mL
   Urine:
                                                                  3,240 mL
                                                                  1,290 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                 -1,984 mL
                                                                   -708 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Spontaneous): 390 (350 - 571) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.49/37/80.[**Numeric Identifier 500**]/26/4
   Ve: 11.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Fatigued
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand, Generalized
   weakness
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Generalized motor weakness
   Labs / Radiology
   10.7 g/dL
   390 K/uL
   146 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.6 mEq/L
   27 mg/dL
   99 mEq/L
   135 mEq/L
   30.8 %
   14.2 K/uL
        [image002.jpg]
                             [**2129-7-24**]  11:01 AM
                             [**2129-7-24**]  05:52 PM
                             [**2129-7-25**]  04:14 AM
                             [**2129-7-25**]  04:35 AM
                             [**2129-7-25**]  06:33 PM
                             [**2129-7-26**]  04:17 AM
                             [**2129-7-26**]  04:47 AM
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
   WBC
   10.9
   12.9
   14.2
   Hct
   26.6
   30.5
   30.8
   Plt
   [**Telephone/Fax (3) 6872**]
   Cr
   1.0
   1.0
   0.9
   0.8
   TCO2
   26
   28
   24
   31
   30
   29
   Glucose
   95
   99
   121
   146
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:80/51, Alk Phos / T Bili:104/0.8,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAILURE -- attributed to infection, ARDS.  Continues to
   demonstrate gradual clinical improvement.  Continue mechanical
   ventilation, work towards SBT.  Wean sedation.  Hope to work towards
   SBT and allow extubation trial if possible.  [**Month (only) 11**] ultimately require
   tracheotomy tube in order to allow continued rehabilitation.
   PNEUMONIA -- Suspect viral etiology.  Tapering antimicrobials
   empirically to Zosyn and Doxicycline.  Continue slow steroid taper.
   PNEUMONMEDIASTINUM -- stable, follow with daily CXRs.
   RENAL FAILURE, ACUTE -- improving.  Monitor UO, BUN, creatinine.
   ANEMIA
 stable.  Monitor Hct.
   HTN
 restart lopressor
   DM
 SSI, maintain  glucose <150.
   FLUIDS -- desire net negative fluid balance.
   MOTOR WEAKNESS -- suspect related to sedation.  At risk for criticial
   care myopathy (received steroids and paralytics).  PT consult.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-07-28 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated on [**7-26**] without complication
   - cough improved from yesterday
   -Speech and swallow came by but were unable to evaluate
   -episode of emesis, ? aspiration
   - neuro status improved with increasing alertness. Verbal with weak
   voice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 09:05 PM
   Doxycycline - [**2129-7-27**] 08:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-27**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-27**] 10:24 PM
   Hydralazine - [**2129-7-28**] 12:24 AM
   Dextrose 50% - [**2129-7-28**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-28**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.4
   HR: 105 (82 - 126) bpm
   BP: 129/76(92) {111/62(81) - 199/105(122)} mmHg
   RR: 23 (19 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                    841 mL
                                                                     65 mL
   PO:
             TF:
                                                                    448 mL
   IVF:
                                                                    269 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                  3,080 mL
                                                                  1,050 mL
   Urine:
                                                                  2,930 mL
                                                                  1,050 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,239 mL
                                                                   -986 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 410 (390 - 410) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 0 cmH2O
   FiO2: 65%
   RSBI: 90
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: 7.48/36/114/25/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Gen: anasarca improved, pt responsive and attempting to communicate
   HEENT:PERRLA, EOMI
   Pulm: Left lung wheezes
   CV:RRR, no MRG
   Abd: soft, NT, ND, +BS
   Peripheral Vascular: +2 DP bilaterally, +2 pitting edema
   Neurologic: Responds to commands, grossly moves all extremities
   Labs / Radiology
   398 K/uL
   10.5 g/dL
   76 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.3 mEq/L
   23 mg/dL
   100 mEq/L
   137 mEq/L
   31.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2129-7-26**]  04:17 AM
                             [**2129-7-26**]  04:47 AM
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
                             [**2129-7-27**]  11:37 AM
                             [**2129-7-27**]  02:24 PM
                             [**2129-7-27**]  11:19 PM
                             [**2129-7-28**]  04:34 AM
                             [**2129-7-28**]  04:43 AM
   WBC
   12.9
   14.2
   13.7
   Hct
   30.5
   30.8
   31.2
   Plt
   372
   390
   398
   Cr
   0.9
   0.8
   0.7
   TCO2
   31
   30
   29
   29
   28
   30
   28
   Glucose
   121
   146
   76
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:80/51, Alk Phos / T Bili:104/0.8,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Acute Hypoxic Respiratory Failure: ARDS resolving, patient extubated
   after prolonged course of mechanical ventilation.
   -Etiology unclear: multifocal infection (CAP vs other) vs interstitial
   inflammatory process still remains unclear. Not likely to be
   vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative infectious
   work-up (Echinococcus, Entamoeba, LCM pending).  S/p ceftriaxone (6/4
   [**7-9**]), s/p vancomycin (6/4
 [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p
   azithromycin (6/4
 [**7-15**]), s/p bactrim (6/5
 [**7-13**]), s/p metronidazole
   (6/15
 [**7-21**]), s/p caspofungin ([**7-16**]), off bactrim, s/p levo
   ([**Date range (1) 6828**]), mcafungin ([**Date range (1) 6829**]), s/p levofloxacin ([**Date range (1) 6830**]), s/p
   micafungin, s/p vancomycin (6/10
 [**7-25**]), s/p zosyn (6/6
 [**7-26**]/)
   - Pneumomedistinal seen on exam and CXR felt to be secondary to high
   PEEP, thoracics evaluated with bronch found no air leak in trachea.
   Stable on CXR and exam.
   - d/c doxycycline ([**7-21**]- [**7-28**])
   - methylprednisolone at 15 daily, start taper today
   - continue to wean patient off high flow oxygen as tolerated to
   maintain Sats > 90%
   # Hypertension: Has hx of htn at baseline, still requiring multiple
   doses of Hydralazine [**3-7**] HTN
   - Increase metoprolol to 75 TID
   - hydralazine PRN
   - goal BP <160
   # ARF: likely pre-renal etiology, resolved
   # Constipation/Diarrhea: C. Diff negative x3. Off metronidazole.
   - flexiseal
   - bowel regimen
   # Diabetes: episode of borderline hyoglycemia this am [**3-7**] stopping tube
   feeds
   - patient will restart tube feeds after failing speech/swallow
   evaluation so will continue on current regimen of  glargine/HISS to
   optimize glucose control
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear etiology, H/H stable
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor neuro status as patient weaned off sedation
   ICU Care
   Nutrition: failed speech and swallow evaluation; restart tube feeds
   Nutren Pulmonary Full strength, 55 mL/hr
   Glycemic Control:  glargine, SSI
   Lines:
   Multi Lumen - [**2129-7-14**] 06:07 PM
   Arterial Line - [**2129-7-20**] 11:25 PM: d/c arterial line at this time
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: stable

2129-07-29 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2129-7-28**] 01:56 PM
 MULTI LUMEN - STOP [**2129-7-28**] 02:01 PM
 MULTI LUMEN - START [**2129-7-28**] 02:17 PM
   No events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 09:05 PM
   Doxycycline - [**2129-7-28**] 07:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-29**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 93 (81 - 116) bpm
   BP: 139/78(93) {120/68(81) - 160/85(100)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
                  Total In:
                                                                  1,245 mL
                                                                    471 mL
   PO:
                  TF:
                                                                    660 mL
                                                                    371 mL
   IVF:
                                                                    410 mL
   Blood products:
   Total out:
                                                                  1,887 mL
                                                                    370 mL
   Urine:
                                                                  1,887 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -642 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen: NAD, pt awake and lying in bed, able to speak with hoarse voice.
   HEENT:PERRLA, EOMI, oropharynx clear, mucous membranes mosit, lips dry
   Pulm: clear to auscultation bilaterally
   CV:RRR, no MRG
   Abd: soft, NT, ND, +BS
   Peripheral Vascular: +2 DP bilaterally, +1 pitting edema, LE in boots
   bilateraly
   Neurologic: Responds to commands, grossly moves all extremities, with
   weakness of R arm > L arm.  Able to move toes in LE, however due to
   boots, unable to move legs.  CN II-XII grossly intact.
   Labs / Radiology
   397 K/uL
   9.6 g/dL
   135 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   27 mg/dL
   103 mEq/L
   138 mEq/L
   29.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2129-7-26**]  04:47 AM
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
                             [**2129-7-27**]  11:37 AM
                             [**2129-7-27**]  02:24 PM
                             [**2129-7-27**]  11:19 PM
                             [**2129-7-28**]  04:34 AM
                             [**2129-7-28**]  04:43 AM
                             [**2129-7-29**]  04:05 AM
   WBC
   14.2
   13.7
   9.2
   Hct
   30.8
   31.2
   29.3
   Plt
   390
   398
   397
   Cr
   0.8
   0.7
   0.8
   TCO2
   31
   30
   29
   29
   28
   30
   28
   Glucose
   146
   76
   135
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:61/30, Alk Phos / T Bili:84/0.6,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Acute Hypoxic Respiratory Failure: ARDS resolving, patient extubated
   after prolonged course of mechanical ventilation.
   -Etiology unclear: multifocal infection (CAP vs other) vs interstitial
   inflammatory process still remains unclear. Not likely to be
   vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative infectious
   work-up (Echinococcus, Entamoeba, LCM pending).  S/p ceftriaxone (6/4
   [**7-9**]), s/p vancomycin (6/4
 [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p
   azithromycin (6/4
 [**7-15**]), s/p bactrim (6/5
 [**7-13**]), s/p metronidazole
   (6/15
 [**7-21**]), s/p caspofungin ([**7-16**]), off bactrim, s/p levo
   ([**Date range (1) 6828**]), mcafungin ([**Date range (1) 6829**]), s/p levofloxacin ([**Date range (1) 6830**]), s/p
   micafungin, s/p vancomycin (6/10
 [**7-25**]), s/p zosyn (6/6
 [**7-26**]/)
   - Pneumomedistinal seen on exam and CXR felt to be secondary to high
   PEEP, thoracics evaluated with bronch found no air leak in trachea.
   Stable on CXR and exam.
   - d/c doxycycline ([**7-21**]- [**7-28**])
   - methylprednisolone at 15 daily, start taper today
   - pt on 4L by NC, continue to wean oxygen requirement keeping sats>92%
   # Hypertension: Has hx of htn at baseline
   - Metoprolol 75 TID
   - hydralazine PRN
   - goal BP <160
   # Constipation/Diarrhea: C. Diff negative x3.
   - flexiseal
   - bowel regimen
   # Diabetes: episode of borderline hyoglycemia [**7-28**] [**3-7**] stopping tube
   feeds. Failed swallow study [**7-28**]
   - continue tube feeds
   - continue on current regimen of  glargine/HISS to optimize glucose
   control
   - repeat swallow study in a few days
   # Elevated LDH, CK: Improving. CK max 11 K. Both LDH and CK  (now down
   trending).
   - Daily LFTs
   # Anemia: unclear etiology, H/H stable
   - monitor CBC daily
   # Pancytopenia: Initially thrombocytopenic at OSH but has progressively
   developed leukopenia and anemia. Low CD4.
   - Type and screen active
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor neuro status as patient weaned off sedation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-29**] 06:02 AM 55 mL/hour
   Glycemic Control:  Insulin sliding scale, glargine
   Lines:
   Multi Lumen - [**2129-7-28**] 02:17 PM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Begin planning transfer to floor as pt stable

2129-07-29 11:24:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.  Decreased FiO2 requirement.
   Much more awake, interactive, appropriate.
   Asking
how much the hospital [**Doctor First Name **] is
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-7-26**] 09:05 PM
   Doxycycline - [**2129-7-28**] 07:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-29**] 08:56 AM
   Famotidine (Pepcid) - [**2129-7-29**] 08:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-7-29**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 94 (81 - 116) bpm
   BP: 143/77(92) {120/68(81) - 160/85(100)} mmHg
   RR: 32 (20 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  1,245 mL
                                                                  1,118 mL
   PO:
             TF:
                                                                    660 mL
                                                                    617 mL
   IVF:
                                                                    410 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  1,887 mL
                                                                  1,260 mL
   Urine:
                                                                  1,887 mL
                                                                    660 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                   -642 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   397 K/uL
   135 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.7 mEq/L
   27 mg/dL
   103 mEq/L
   138 mEq/L
   29.3 %
   9.2 K/uL
        [image002.jpg]
                             [**2129-7-26**]  04:47 AM
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
                             [**2129-7-27**]  11:37 AM
                             [**2129-7-27**]  02:24 PM
                             [**2129-7-27**]  11:19 PM
                             [**2129-7-28**]  04:34 AM
                             [**2129-7-28**]  04:43 AM
                             [**2129-7-29**]  04:05 AM
   WBC
   14.2
   13.7
   9.2
   Hct
   30.8
   31.2
   29.3
   Plt
   390
   398
   397
   Cr
   0.8
   0.7
   0.8
   TCO2
   31
   30
   29
   29
   28
   30
   28
   Glucose
   146
   76
   135
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:61/30, Alk Phos / T Bili:84/0.6,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.7
   mg/dL
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAILURE -- attributed to infection, ARDS.  Extubated and
   remains extubated.  Continues to demonstrate gradual clinical
   improvement.  Monitor RR, SaO2, maintain HOB > 30.
   PNEUMONIA -- Suspect viral etiology.  Tapering antimicrobials, now on
   Doxicycline alone.  Continue slow steroid taper.
   RENAL FAILURE, ACUTE -- improving.  Monitor UO, BUN, creatinine.
   ANEMIA
 stable.  Monitor Hct.
   HTN
 Resume lopressor.
   NUTRITIONAL SUPPORT -- failed initial speech and swallow.  Remain NPO.
   Resume TF.  Plan repeat Speech & Swallow exam.
   DM
 SSI, maintain  glucose <150.
   FLUIDS -- desire net negative fluid balance.  Monitor I/O.
   MOTOR WEAKNESS
 Gradual daily improvement.  Suspect related to
   sedation and paralysis.  At risk for criticial care myopathy (received
   steroids and paralytics).  PT consult.  Initiate screening for
   rehabilitation.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-29**] 06:02 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-28**] 02:17 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-07-30 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No events overnight
   S: Pt complains of pain in both legs, unable to describe further.
   Speaking.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2129-7-28**] 07:58 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2129-7-29**] 08:57 AM
   Heparin Sodium (Prophylaxis) - [**2129-7-29**] 10:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-7-30**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 80 (80 - 107) bpm
   BP: 126/75(87) {126/72(87) - 162/97(112)} mmHg
   RR: 30 (24 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
                  Total In:
                                                                  2,410 mL
                                                                    473 mL
   PO:
                  TF:
                                                                  1,280 mL
                                                                    373 mL
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    650 mL
   Urine:
                                                                  1,910 mL
                                                                    650 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -100 mL
                                                                   -177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
 exam unchanged from [**7-29**]
   Gen: NAD, patient speaking in whispers, awake
   HEENT:PERRLA, EOMI, oropharynx clear, mucous membranes mosit
   Pulm: clear to auscultation bilaterally
   CV:RRR, no MRG
   Abd: soft, NT, ND, +BS
   Peripheral Vascular: +2 DP bilaterally, LE in boots bilateraly
   Neurologic: Responds to commands, grossly moves all extremities, with
   weakness of R arm > L arm.  Able to move toes in LE, however due to
   boots, unable to move legs.  CN II-XII grossly intact.
   Labs / Radiology
   379 K/uL
   9.8 g/dL
   106 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   22 mg/dL
   103 mEq/L
   138 mEq/L
   29.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
                             [**2129-7-27**]  11:37 AM
                             [**2129-7-27**]  02:24 PM
                             [**2129-7-27**]  11:19 PM
                             [**2129-7-28**]  04:34 AM
                             [**2129-7-28**]  04:43 AM
                             [**2129-7-29**]  04:05 AM
                             [**2129-7-30**]  04:11 AM
   WBC
   14.2
   13.7
   9.2
   8.0
   Hct
   30.8
   31.2
   29.3
   29.6
   Plt
   390
   398
   397
   379
   Cr
   0.8
   0.7
   0.8
   0.8
   TCO2
   30
   29
   29
   28
   30
   28
   Glucose
   146
   76
   135
   106
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:61/30, Alk Phos / T Bili:84/0.6,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Micro: No new culture results
   Rads: No new imaging
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 HYPERTENSION, BENIGN
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Acute Hypoxic Respiratory Failure: ARDS resolving, patient extubated
   after prolonged course of mechanical ventilation now on
   -Etiology unclear: multifocal infection (CAP vs other) vs interstitial
   inflammatory process still remains unclear. Not likely to be
   vasculitis, as ANCA/[**Doctor First Name **]/anti-GBM negative. So far negative infectious
   work-up (Echinococcus, Entamoeba, LCM pending).  S/p ceftriaxone (6/4
   [**7-9**]), s/p vancomycin (6/4
 [**7-9**]), s/p linezolid (6/6
 [**7-13**]), s/p
   azithromycin (6/4
 [**7-15**]), s/p bactrim (6/5
 [**7-13**]), s/p metronidazole
   (6/15
 [**7-21**]), s/p caspofungin ([**7-16**]), off bactrim, s/p levo
   ([**Date range (1) 6828**]), micafungin ([**Date range (1) 6829**]), s/p levofloxacin ([**Date range (1) 6830**]), s/p
   micafungin, s/p vancomycin (6/10
 [**7-25**]), s/p zosyn (6/6
 [**7-26**]/). s/p
   pneumomedistinal seen on exam and CXR felt to be secondary to high
   PEEP, thoracics evaluated with bronch found no air leak in trachea.
   Stable on CXR and exam.
   - decrease prednisone to 10 mg q24 for dose on [**7-31**]
   - pt on on RA, monitor to keep sats>92%
   - continue OOB to chair today
   - remove L IJ prior to transfer to floor.
   # Hypertension: Has hx of htn at baseline, blood pressure high-normal,
   will monitor.
   - Metoprolol 75 TID
   - discontinue hydralazine PRN
   - goal BP <160
   # Constipation/Diarrhea: C. Diff negative x3.
   - flexiseal
   - bowel regimen
   # Elevated Glucose: pt with elevated glucose during ICU stay,
   controlled on Insulin SS and glargine.
   - continue tube feeds until passes swallow study
   - decrease glargine to 25 units qhs to account for steroid taper/
   - repeat swallow study
   Elevated LDH:
   Will discontinue daily LFTs
   # Anemia: unclear etiology, pt previously with pancytopenia, but now
   resolved, H/H remain stable
   - monitor CBC daily
   # Weakness right hand: per wife, has weakness lately in right hand at
   home
   - monitor neuro status as patient weaned off sedation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2129-7-30**] 12:56 AM 55.[**Telephone/Fax (5) 6944**] mL/hour
   Failed swallow study on [**7-28**], will re-evaluate on [**8-1**]
   Glycemic Control:  sliding scale insulin, glargine
   Lines:
   Multi Lumen - [**2129-7-28**] 02:17 PM
   Peripheral
   Prophylaxis:
   DVT:  Heparin Sc
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor

2129-07-30 11:43:00 Physician Attending Progress Note
Chief Complaint: ARDS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains with generalized weakness, but continues to make gradual
   progress, daily.
   Remains extubated, now on room air.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Doxycycline - [**2129-7-28**] 07:58 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-7-30**] 08:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-7-30**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 82 (80 - 94) bpm
   BP: 143/89(102) {126/75(87) - 162/97(112)} mmHg
   RR: 33 (24 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 81.6 kg
   Height: 70 Inch
             Total In:
                                                                  2,410 mL
                                                                    796 mL
   PO:
             TF:
                                                                  1,280 mL
                                                                    552 mL
   IVF:
                                                                    500 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,000 mL
   Urine:
                                                                  1,910 mL
                                                                  1,000 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                   -100 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.8 g/dL
   379 K/uL
   106 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.2 mEq/L
   22 mg/dL
   103 mEq/L
   138 mEq/L
   29.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2129-7-26**]  02:36 PM
                             [**2129-7-27**]  04:12 AM
                             [**2129-7-27**]  04:47 AM
                             [**2129-7-27**]  11:37 AM
                             [**2129-7-27**]  02:24 PM
                             [**2129-7-27**]  11:19 PM
                             [**2129-7-28**]  04:34 AM
                             [**2129-7-28**]  04:43 AM
                             [**2129-7-29**]  04:05 AM
                             [**2129-7-30**]  04:11 AM
   WBC
   14.2
   13.7
   9.2
   8.0
   Hct
   30.8
   31.2
   29.3
   29.6
   Plt
   390
   398
   397
   379
   Cr
   0.8
   0.7
   0.8
   0.8
   TCO2
   30
   29
   29
   28
   30
   28
   Glucose
   146
   76
   135
   106
   Other labs: PT / PTT / INR:12.4/32.6/1.0, CK / CKMB /
   Troponin-T:356/9/0.03, ALT / AST:61/30, Alk Phos / T Bili:84/0.6,
   Amylase / Lipase:74/31, Differential-Neuts:79.5 %, Band:10.0 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:3.3 %, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, LDH:673 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Respiratory failure, ARDS.
   RESPIRATORY FAILURE -- ARDS.  Remains extubated.  Continues to
   demonstrate gradual clinical improvement.  Monitor RR, SaO2, maintain
   HOB > 30.
   MOTOR WEAKNESS
 Gradual daily improvement.  Suspect related to
   sedation and paralysis.  At risk for criticial care myopathy (received
   steroids and paralytics).  PT consult.  Initiate screening for
   rehabilitation.
   PNEUMONIA -- Suspect viral etiology.  Tapering antimicrobials, now on
   Doxicycline alone.  Continue slow steroid taper (possible steriod
   responsive lung disease).
   ANEMIA
 stable.  Monitor Hct.
   HTN
 Resume lopressor.
   NUTRITIONAL SUPPORT -- failed initial speech and swallow.  Remain NPO.
   Resume TF.  Plan repeat Speech & Swallow exam.
   HYPERGLYCEMIA
 SSI, maintain  glucose <150.
   FLUIDS -- desire net negative fluid balance.  Monitor I/O.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-7-28**] 02:17 PM
   20 Gauge - [**2129-7-30**] 10:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill